2129-12-18 14:49:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84M 2 days of hematuria and hematemesis and dyspnea. Intubated in ER
   for respiratory distress. Referred to [**Hospital1 **] because of misplaced foley.
   In our ER, afebrile, on vent. Labs showed creatinine 4, WBC 32, lactate
   7.7, 7.15/42/290 on AC. Seen by urology who re-placed foley. Abd CT
   showed free fluid in pelvis and foley in prostatic urethra - uro again
   repositioned.
   In ICU, stable on vent. No evidence of GI bleeding.
   24 Hour Events:
   History obtained from housestaff
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-18**] 10:00 AM
   Ciprofloxacin - [**2129-12-18**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-18**] 11:33 AM
   Fluconazole - [**2129-12-18**] 12:38 PM
   Infusions:
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Insulin - Regular - [**2129-12-18**] 12:48 PM
   Other medications:
   Changes to medical and family history:
   AF PPM
   CAD
   hematuria
   DM2
   AAA repair
   DVT
   BPH
   CVA
   aapy
   CCY
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-18**] 02:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.9
C (96.6
   HR: 108 (107 - 118) bpm
   BP: 112/50(67) {92/50(67) - 141/75(87)} mmHg
   RR: 36 (22 - 38) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             2,896 mL
   PO:
             TF:
   IVF:
   2,896 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,665 mL
   Urine:
   1,265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,231 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.42/41/152
   Ve: 20.8 L/min
   PaO2 / FiO2: 304
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   291
   221
   2.4
   19
   4.8 mEq/L
   47
   98 mEq/L
   135 mEq/L
   42
   34
        [image002.jpg]
                            [**2129-12-18**]  09:15 AM
                            [**2129-12-18**]  10:56 AM
                            [**2129-12-18**]  02:11 PM
   Hct
   30
   TCO2
   15
   21
   28
   Other labs: PT / PTT / INR://1.0, CK / CKMB / Troponin-T:56//, ALT /
   AST:26/36, Alk Phos / T Bili:179/1.0, Lactic Acid:8.8 mmol/L
   Imaging: head CT encephalomalacia right frontal lobe
   abd CT free fluid, bladder tip in urethra, severe basilar emphysema, ?
   LLL pna
   ECG: AF with frequent PVC's
   Assessment and Plan
   lactic acidosis, leukocytosis - suspect Gi or GU source, await final CT
   read, await CT cystogram, continue abx
   resp failure -  severe emphysema, possible LLL infiltrate perhaps due
   to aspiration from hematemesis - will cover with abx, cont vebt
   support, MDI's
   hematemesis - currently Hct stable and no blood from OG tube. Will
   continue to follow closely, IV access adequate. PPI
   hematuria, misplaced foley - await CT cystogram
   acute renal failure - volume resuscitate, follow
   a-fib - hold dig, rate control as needed
   DM - on insulin gtt
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-12-18**] 09:51 AM
   18 Gauge - [**2129-12-18**] 09:52 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2129-12-19 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2129-12-18**] 09:30 AM
 BLOOD CULTURED - At [**2129-12-18**] 02:20 PM
   LUE
 URINE CULTURE - At [**2129-12-18**] 11:55 PM
 ARTERIAL LINE - START [**2129-12-19**] 12:00 AM
 MULTI LUMEN - START [**2129-12-19**] 12:00 AM
   - Urology came by and did cystoscopy-guided, difficult urethral
   dilatation and Foley placement. Now confirmed to be intravesicular,
   draining urine.
   - HypoTN in the evening, started on Dopamine, CVL placed, then switched
   to Levo
   - Spoke with daughter [**Name (NI) 412**] [**Telephone/Fax (1) 10088**] or [**Telephone/Fax (1) 10089**] and explained
   he's worsening and BP dropping. She states no chest compressions but
   pressors OK. Also spoke with wife.
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-18**] 10:00 AM
   Ciprofloxacin - [**2129-12-18**] 10:00 AM
   Fluconazole - [**2129-12-18**] 12:38 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-19**] 04:17 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Insulin - Regular - [**2129-12-18**] 12:48 PM
   Pantoprazole (Protonix) - [**2129-12-18**] 05:36 PM
   Heparin Sodium (Prophylaxis) - [**2129-12-19**] 02:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-19**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 78 (65 - 118) bpm
   BP: 99/43(62) {87/38(-3) - 126/52(72)} mmHg
   RR: 16 (10 - 38) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 7 (7 - 8)mmHg
   Total In:
                                                                  8,070 mL
                                                                  2,505 mL
   PO:
   TF:
   IVF:
                                                                  8,020 mL
                                                                  2,505 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                  1,455 mL
   Urine:
                                                                  1,705 mL
                                                                  1,455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,965 mL
                                                                  1,050 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 786 (430 - 875) mL
   PS : 15 cmH2O
   RR (Set): 28
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.51/36/105/27/6    TRENDING TOWARDS ALKALOTIC WITH ELEVATED
   HCO3's
   Ve: 12.1 L/min
   PaO2 / FiO2: 300
   Physical Exam: Intubated, sedated, poor air movement in lungs. Heart
   irregular. Abdomen benign, not obese. No BLE edema.
   Labs / Radiology
   222 K/uL
   10.9 g/dL
   125 mg/dL
   1.4 mg/dL
   27 mEq/L
   4.3 mEq/L
   34 mg/dL
   105 mEq/L
   143 mEq/L
   31.8 %
   25.6 K/uL
        [image002.jpg]
                            [**2129-12-18**]  10:56 AM
                            [**2129-12-18**]  02:02 PM
                            [**2129-12-18**]  02:11 PM
                            [**2129-12-18**]  05:06 PM
                            [**2129-12-18**]  08:53 PM
                            [**2129-12-18**]  09:02 PM
                            [**2129-12-18**]  10:52 PM
                            [**2129-12-19**]  02:05 AM
                            [**2129-12-19**]  02:10 AM
                            [**2129-12-19**]  05:50 AM
   WBC
   18.4
   21.0
   25.6
   RISING
   Hct
   30
   37.4
   37
   32.2
   31.8
   TRENDING DOWN
   Plt
   188
   193
   222
   STABLE
   Cr
   2.2
   1.6
   1.4
   TRENDING DOWN
   TropT
   0.02
   TCO2
   21
   28
   29
   31
   27
   30
   30
   Glucose
   490
   275
   72
   125
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24   YESTERDAY , Alk Phos / T
   Bili:124/0.7  YESTERDAY TRENDING DOWN , Amylase / Lipase:44/20,
   Fibrinogen:341 mg/dL, Lactic Acid:2.9 mmol/L, Albumin:3.5 g/dL, LDH:224
   IU/L, Ca++:8.9 mg/dL, Mg++:2.6 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs:
   Iron studies c/w ACD.
   Cortisol appropriate 59.1 (appropriate)
   Dig 1.7.
   ABG's trending toward alkalotic, no problems with O2, CO2's fairly
   normal.
   Lactate 10.5 --> 2.9
   free Ca's were low but now within range
   Vanc trough 6.1
   Dig 1.7
   UA with blood and infxn
   Imaging: [**12-19**] CXR this am
   [**12-18**] CT cystogram pending
   Microbiology: [**12-18**] BCx x3 negative to date
   UCx negative to date
   Per report, OSH cultures have come back positive with >100k
   enterococcus from urine and blood with GPC
s in chains.
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Assessment and Plan: An 84 year old gentleman admitted from [**Hospital3 33**]
   Hospital with respiratory failure, hematuria and elevated lactate, who
   has now developed a pressor requirement.
   Shock:  Patient presented with elevated WBC count, tachycardia,
   hypothermia, elevated lactate consistent with sepsis. Possible sources
   are urinary given history and LLL small infiltrate. Now with acute
   hypoTN on evening of [**12-18**] and started on pressors which he continues
   on.
   - Need to get influenza DFA this morning
   - Fluc, Vanc, Zosyn, Cipro, Tamiflu all started [**12-18**]  for empiric
   coverage of bowel flora, urinary pathogens and pulmonary pathogens. Now
   that we have some Cx data from OSH with enteroccus in urine and GPC
   in chains in the blood, we can likely narrow our coverage and d/c Fluc
   and Cipro.
   - F/u Cx's from both this institution and also f/u final reads from OSH
   - Cx for spiking fevers
   - Need to get sputum Cx's (mini-BAL vs ETT sputum sample) and stool if
   he has BM for Cdiff, Cx's
   - He has shown improvement with IVF's and got several liters of LR last
   night after he became unstable.
   - Consider echo to r/o cardiogenic shock, with h/o rhythm abnmls and
   pacer. CVP is [**8-3**].
   - IVF for UOP < 30 cc/hr, SBP < 90
   - Central line in place for pressors as necessary (currently on Levo).
   Daughter states OK to pressor but not OK to do chest compressions
   - Trend lactate until normal
   - Wean Levophed as tolerated
   Respiratory Failure:  Patient with severe emphysema on CT scan with
   respiratory failure in the setting of severe acidosis with tachypnea
   and possible developing left sided infiltrate. Pt was on AC yesterday
   but has switched to CPAP and tolerated fairly well, with good ABG's.
   - sputum culture as above
   - continue mechanical ventilation, wean as tolerated
 will start by
   decreasing PEEP today
   - consider RSBI tomorrow but not likely to be successful unless
   underlying condition addressed
   - influenza DFA, empiric tamiflu
   - Vanc, Zosyn, Tamiflu for empiric coverage of severe pneumonia and
   sepsis
 D/c other ABx as above
   - albuterol and ipratropium MDIs
   Metabolic Alkalosis: Bicarb has been rising and is most likely due to
   the D5W with HCO3 that he got yesterday. Would continue to trend and if
   continues to be high, consider Acetazolamide.
   Acute Renal Failure:  Baseline creatinine unknown. On admission, was
   likely prerenal in the setting of sepsis, may also have component of
   ATN and initially post-renal obstruction.  Foley catheter now
   successfully placed. Cr has been trending down nicely with IVF's.
   - trend UOP with IVF and pressors to maintain UOP > 30 cc/hr if
   possible
   - Trend Cr
   - foley catheter now in place
 do NOT take out, per Urology, as below
   Elevated Blood Sugars:  Blood sugars in the 500s on arrival to the MICU
   and started on insulin gtt. Gtt has now been stopped and his BS's have
   been in the 100's.
   - Keep eye on BS and either restart gtt if very elevated consistently
   or start SSI.
   Hematemasis:  Unclear history.  Currently guaiac negative with bilious
   NGT drainage.
   - trend hematocrits
   - active type and screen
   - will place central line for access
   - transfusion goal < 30 in septic shock
   - IV PPI [**Hospital1 **]
   Traumatic Foley Placement:  Patient transferred after concern that
   foley may be placed in scrotum.  Initial CT concerning for
   intraabdominal placement, now most likely instead bladder
   diverticulum.  Urology did cystoscopy and placed Foley. Their recs are
   to keep Foley in place, do not remove without asking urology first,
   keep secure to thigh with 2 catheter secures, f/u with Urology when
   acute illness over.
   Atrial fibrillation/PVCs:  Patient s/p pacemaker for unclear underlying
   rhythm although [**Hospital3 **] notes history of atrial fibrillation.
   Currently in sinus tachycardia with PVCs/intermittent conduction block.
   - holding digoxin given renal failure
   - monitor on telemetry
   - digoxin level 1.7
   - Get EKG this morning
   Coronary Artery Disease:  Details unclear.
   - holding aspirin
   Hyperlipidemia:
   - holding statin as NPO
   FEN: IVF for resuscitation and to maintain UOP's and MAP's as above,
   replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin, IV PPI
   Access: CVL and Art line have now been placed, also have 20g PIV
   Code:  DNR, already intubated. Per daughter, NO chest compressions,
   nothing to make him suffer
   Communication: Patient, Wife [**Name (NI) 10077**] [**Telephone/Fax (1) 10078**], Son [**Name (NI) 5371**], Daughter
   [**Name (NI) 412**] is very involved
   Disposition: MICU
intubated on Levo

2129-12-19 09:57:00 Physician Attending Progress Note
Chief Complaint: lactic acidosis, acute renal failure, respiratory
   failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo man with severe emphysema, PVD, CAD, admitted with respiratory
   failure,  hematuria, hematemesis, severe lactic acidosis, acute renal
   failure.  Had ? of urethral perf, but urology placed foley and no
   evidence of urethral perf.  Is currently DNR.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2129-12-18**] 09:30 AM
 BLOOD CULTURED - At [**2129-12-18**] 02:20 PM
   LUE
 URINE CULTURE - At [**2129-12-18**] 11:55 PM
 ARTERIAL LINE - START [**2129-12-19**] 12:00 AM
 MULTI LUMEN - START [**2129-12-19**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2129-12-18**] 12:38 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-19**] 04:17 AM
   Ciprofloxacin - [**2129-12-19**] 07:37 AM
   Vancomycin - [**2129-12-19**] 08:50 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Insulin - Regular - [**2129-12-18**] 12:48 PM
   Pantoprazole (Protonix) - [**2129-12-18**] 05:36 PM
   Heparin Sodium (Prophylaxis) - [**2129-12-19**] 02:12 AM
   Other medications:
   atrovent/albuterol nebs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-19**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.6
   HR: 69 (65 - 118) bpm
   BP: 105/52(68) {87/38(-3) - 126/55(75)} mmHg
   RR: 27 (10 - 38) insp/min
   SpO2: 94%
   Heart rhythm: A Flut (Atrial Flutter)
   CVP: 1 (1 - 8)mmHg
   Total In:
                                                                  8,070 mL
                                                                  2,934 mL
   PO:
   TF:
   IVF:
                                                                  8,020 mL
                                                                  2,934 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                  1,785 mL
   Urine:
                                                                  1,705 mL
                                                                  1,785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,965 mL
                                                                  1,149 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 786 (430 - 875) mL
   PS : 15 cmH2O
   RR (Set): 28
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 94%
   ABG: 7.51/36/105/27/6
   Ve: 12.1 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: b/l)
   Abdominal: Non-tender, firm, non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   222 K/uL
   125 mg/dL
   1.4 mg/dL
   27 mEq/L
   4.3 mEq/L
   34 mg/dL
   105 mEq/L
   143 mEq/L
   31.8 %
   25.6 K/uL
        [image002.jpg]
                            [**2129-12-18**]  10:56 AM
                            [**2129-12-18**]  02:02 PM
                            [**2129-12-18**]  02:11 PM
                            [**2129-12-18**]  05:06 PM
                            [**2129-12-18**]  08:53 PM
                            [**2129-12-18**]  09:02 PM
                            [**2129-12-18**]  10:52 PM
                            [**2129-12-19**]  02:05 AM
                            [**2129-12-19**]  02:10 AM
                            [**2129-12-19**]  05:50 AM
   WBC
   18.4
   21.0
   25.6
   Hct
   30
   37.4
   37
   32.2
   31.8
   Plt
   188
   193
   222
   Cr
   2.2
   1.6
   1.4
   TropT
   0.02
   TCO2
   21
   28
   29
   31
   27
   30
   30
   Glucose
   490
   275
   72
   125
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:2.9 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.5
   mg/dL
   Microbiology: blood cx: GPCs in chains
   urine cs: NGTD
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Septic shock:  Growing GPCs in chains at OSH could be strep PNA from
   lung source or enterococci from urine.
   Can get echo to r/o vegetations.
   urine with enterococcus:  linezolid, and d/c vanco.
   - lactic acidosis improving, and levophed has weaned down.
   respiratory failure:  On PSV, has respiratory alkalosis, but can wean
   PS.  MS still poor.
   - influenza DFA pending
   - continue vanco/cipro/cefepime
   Respiratory alkalosis:  could be due to sepsis, not apparently in
   pain.  Will reduce PSV.
   acute renal failure:  Creatinine is improving with IVF.
   poor MS:  may be due to decreased sedation clearance in setting of ARF,
   but slow improvement.
   hyperglycemia: improved
   difficult foley placement:  continue foley for now.
   Afib with PVCs:  Digoxin is held.   Likely intermittently pacing.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-12-18**] 09:51 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2129-12-20 12:26:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo man with severe COPD admitted with UGIB, septic shock, and
   respiratory failure.  Improved doing SBT today.
   24 Hour Events:
 EKG - At [**2129-12-19**] 10:02 AM
 ULTRASOUND - At [**2129-12-19**] 11:36 AM
 SPUTUM CULTURE - At [**2129-12-19**] 12:44 PM
 BAL FLUID CULTURE - At [**2129-12-19**] 04:30 PM
 STOOL CULTURE - At [**2129-12-19**] 09:28 PM
 STOOL CULTURE - At [**2129-12-19**] 11:47 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2129-12-18**] 12:38 PM
   Ciprofloxacin - [**2129-12-19**] 07:37 AM
   Vancomycin - [**2129-12-19**] 08:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-20**] 05:54 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-20**] 10:08 AM
   Other medications:
   chlorhexidine
   albuterol
   insulin drip
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-20**] 12:26 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.9
   HR: 72 (68 - 83) bpm
   BP: 117/60(78) {76/44(63) - 136/91(97)} mmHg
   RR: 32 (22 - 32) insp/min
   SpO2: 92%
   Heart rhythm: A Flut (Atrial Flutter)
   CVP: 9 (0 - 14)mmHg
   Total In:
                                                                  4,073 mL
                                                                    780 mL
   PO:
   TF:
                                                                    314 mL
                                                                    548 mL
   IVF:
                                                                  3,759 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                  2,565 mL
                                                                    645 mL
   Urine:
                                                                  2,565 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,508 mL
                                                                    135 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 620 (470 - 620) mL
   PS : 8 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 56
   PIP: 14 cmH2O
   SpO2: 92%
   ABG: 7.46/37/81.[**Numeric Identifier **]/24/2
   Ve: 15.4 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   183 K/uL
   137 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.3 mEq/L
   33 mg/dL
   109 mEq/L
   141 mEq/L
   29.9 %
   19.6 K/uL
        [image002.jpg]
                            [**2129-12-18**]  08:53 PM
                            [**2129-12-18**]  09:02 PM
                            [**2129-12-18**]  10:52 PM
                            [**2129-12-19**]  02:05 AM
                            [**2129-12-19**]  02:10 AM
                            [**2129-12-19**]  05:50 AM
                            [**2129-12-19**]  12:06 PM
                            [**2129-12-19**]  11:02 PM
                            [**2129-12-20**]  03:14 AM
                            [**2129-12-20**]  03:25 AM
   WBC
   21.0
   25.6
   19.6
   Hct
   32.2
   31.8
   29.9
   Plt
   193
   222
   183
   Cr
   1.6
   1.4
   1.0
   TCO2
   31
   27
   30
   30
   30
   27
   27
   Glucose
   72
   125
   137
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.2
   mg/dL
   Microbiology: enterococcus in urine
   GPCs in chains in blood.
   Assessment and Plan
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Mental status:  still very poor.  Is esssentially unresponsive.  Head
   CT was largely unremarkable on admission.  Will get EEG.
   Respiratory failure:  improved could possibly come off ventilator if MS
   was better.
   Foley trauma:  continue foley for now
   Aflutter/AFIb:  rate is controlled.   Will hold off on anticoagulation
   given hematemesis.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-12-20**] 03:18 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-12-18**] 09:51 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2129-12-21 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Unresponsive
   24 Hour Events:
   - EEG showed no seizure activity.  Toxic/metabolic vs anoxic.
   Neurology was not consulted.
   - Outside hospital urine showed that the Enterococcus is resistant to
   cipro, levo, PCN, tetracycline. Sensitive to ampicillin and vancomycin.
   This report is being placed in the patient
s chart.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2129-12-19**] 07:37 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-20**] 04:00 AM
   Vancomycin - [**2129-12-20**] 08:58 AM
   Fluconazole - [**2129-12-20**] 05:00 PM
   Piperacillin - [**2129-12-21**] 06:42 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-12-21**] 02:27 AM
   Pantoprazole (Protonix) - [**2129-12-21**] 06:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-21**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.9
   HR: 79 (70 - 79) bpm
   BP: 121/43(62) {106/39(58) - 135/59(80)} mmHg
   RR: 35 (26 - 37) insp/min
   SpO2: 93%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 52.8 kg (admission): 55 kg
    CVP: 3 (0 - 15)mmHg
   Total In:
                                                                  2,043 mL
                                                                    485 mL
   PO:
   TF:
                                                                  1,092 mL
                                                                    307 mL
   IVF:
                                                                    951 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    460 mL
   Urine:
                                                                  1,350 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    693 mL
                                                                     25 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (410 - 620) mL
   PS : 10 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 103
   PIP: 14 cmH2O
   SpO2: 93%
   ABG: ///28/
   Ve: 16.5 L/min
   Physical Examination
   Gen: intubated and off sedation.  Left eye closed.  Spontaneously moves
   left arm but does not follow commands or withdraw to painful stimuli.
   Chest: moving air well bilaterally
   CV: hyperdynamic right ventricle low in chest.
   Abdomen: non-distended; normal BS
   Ext: no edema, cachectic.
   No blood visualized in Foley urine.
   Labs / Radiology
   140 K/uL
   9.9 g/dL
   121 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.2 mEq/L
   33 mg/dL
   110 mEq/L
   143 mEq/L
   30.0 %
   17.9 K/uL
        [image002.jpg]
                            [**2129-12-18**]  09:02 PM
                            [**2129-12-18**]  10:52 PM
                            [**2129-12-19**]  02:05 AM
                            [**2129-12-19**]  02:10 AM
                            [**2129-12-19**]  05:50 AM
                            [**2129-12-19**]  12:06 PM
                            [**2129-12-19**]  11:02 PM
                            [**2129-12-20**]  03:14 AM
                            [**2129-12-20**]  03:25 AM
                            [**2129-12-21**]  03:40 AM
   WBC
   25.6
   19.6
   17.9
   Hct
   31.8
   29.9
   30.0
   Plt
   222
   183
   140
   Cr
   1.4
   1.0
   0.9
   TCO2
   31
   27
   30
   30
   30
   27
   27
   Glucose
   125
   137
   121
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:1.7
   mg/dL
   Imaging: [**12-20**] CXR decreased opacities
   [**12-21**] CXR stable
   Microbiology: [**12-19**] Cdiff negative
   [**12-17**] flu negative
   Blood cultures negative to date
   Assessment and Plan
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   An 84 year old gentleman admitted from [**Hospital3 33**] Hospital with
   respiratory failure, hematuria and elevated lactate, who developed a
   pressor requirement upon admission.
   .
   #Altered mental status: Patient has been altered since arrival at [**Hospital 1249**].  He is unresponsive.  This could be due to: his infection,
   toxic/metabolic from medications, and/or concern for seizure as well.
   Is off sedation and mental status continues to be altered.
   - Neurology consult today
   - Head CT without contrast
   - Consider EEG
   #Sepsis:  Patient presented with elevated WBC count, tachycardia,
   hypothermia, elevated lactate consistent with sepsis. Possible sources
   are urinary given history and LLL small infiltrate. Acute hypotension
   on evening of [**12-18**]; started on pressors which he has now been weaned
   off of.  Influenza DFA negative.  ECHO did not reveal cardiogenic
   shock. Vanc, Zosyn started [**12-18**]  for coverage of  enterococcus in
   urine and GPC
s in chains in the blood,  Here there are gm + cocci in
   pairs and clusters in sputum as well as yeast.
   - D/c vanc, zosyn, now that we have enterococcus sensitivities
   - D/c fluconazole
   - Start ampicillin (enterococcus is ampicillin sensitive) for total of
   14 day course of antibiotics (include the vancomycin in this 14-day
   course; started [**12-18**], 14-day course ends [**2129-12-31**])
   - F/u Cx's from both [**Hospital1 5**] and OSH
   - Cx for spiking fevers
   - IVF for UOP < 30 cc/hr, SBP < 90
   - Trend lactate until normal
   .
   #Respiratory Failure:  Patient with severe emphysema on CT scan with
   respiratory failure in the setting of severe acidosis with tachypnea
   and possible developing left sided infiltrate. Pt was on AC yesterday
   but has switched to CPAP and tolerated fairly well, with good ABG's.
   - ABG
   - sputum culture as above
   - continue mechanical ventilation, wean as tolerated by mental status
   - passed RSBI this morning, no SBT in wake of altered mental status
   continuing
   - Ampicillin for urosepsis
   - Albuterol and ipratropium MDIs
   - 20mg IV lasix for goal 1L negative today; check 3 PM lytes
   .
   #Metabolic Alkalosis: Bicarb had been rising;  most likely due to the
   D5W with HCO3. Will continue to trend and if continues to be high,
   consider Acetazolamide.  Is normal today.  Has some respiratory
   alkalosis.
   .
   #Acute Renal Failure:  Baseline creatinine unknown. On admission, was
   likely pre-renal in the setting of sepsis, may also have component of
   ATN and initially post-renal obstruction.  Foley catheter now
   successfully placed. Cr has been trending down nicely with IVF's.
   - Trend UOP with IVF to maintain UOP > 30 cc/hr if possible
   - Trend Cr
   - Foley catheter now in place = do NOT take out, per Urology, as below
   .
   #Elevated Blood Sugars:  Blood sugars in the 500s on arrival to the
   MICU and started on insulin gtt. Gtt has now been stopped and his BS's
   have been in the 100's.
   - Keep eye on BS and either restart gtt if very elevated consistently
   or start SSI.
   .
   #Hematemasis:  Unclear history.  Currently guiac negative with bilious
   NGT drainage.
   - trend hematocrits
   - active type and screen
   - transfusion goal < 30 in septic shock; but improving today so will
   likely just follow
   - IV PPI [**Hospital1 **]
   - restart home ASA
   .
   #Traumatic Foley Placement:  Patient transferred after concern that
   foley may be placed in scrotum.  Initial CT concerning for
   intraabdominal placement, now most likely instead bladder
   diverticulum.  Urology did cystoscopy and placed Foley. Their recs are
   to keep Foley in place, do not remove without asking urology first,
   keep secure to thigh with 2 catheter secures, f/u with Urology when
   acute illness over.
   .
   #Atrial fibrillation/PVCs:  Patient s/p pacemaker for unclear
   underlying rhythm although [**Hospital3 **] notes history of atrial
   fibrillation.  Currently in sinus tachycardia with PVCs/intermittent
   conduction block.  Digoxin level was normal.
   - no need to start digoxin because of rate being low
   - monitor on telemetry
   - Get EKG this morning
   .
   #Coronary Artery Disease:  Details unclear.
   - restart home aspirin 81mg daily
   .
   #Hyperlipidemia:
   - restart home statin, lipitor 10mg daily
   .
   FEN: IVF for resuscitation and to maintain UOP's and MAP's as above,
   replete electrolytes, tube feeds
   Prophylaxis: Subcutaneous heparin, IV PPI
   Access: CVL and Art line have now been placed, also have 20g PIV
   Code:  DNR, already intubated. Per daughter, NO chest compressions,
   nothing to make him suffer
   Communication: Patient, Wife [**Name (NI) 10077**] [**Telephone/Fax (1) 10078**], Son [**Name (NI) 5371**], Daughter
   [**Name (NI) 412**] is very involved
   Disposition: MICU
intubated and altered mental status
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-12-21**] 01:14 AM 45 mL/hour
   Lines:
   20 Gauge - [**2129-12-18**] 09:51 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-12-21 11:24:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo man with severe COPD, respiratory failure, enteroccal septsis
   from UTI.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2129-12-19**] 07:37 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-20**] 04:00 AM
   Vancomycin - [**2129-12-20**] 08:58 AM
   Fluconazole - [**2129-12-20**] 05:00 PM
   Piperacillin - [**2129-12-21**] 06:42 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-12-21**] 02:27 AM
   Pantoprazole (Protonix) - [**2129-12-21**] 06:42 AM
   Other medications:
   fluconazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-21**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.9
   HR: 79 (64 - 79) bpm
   BP: 111/65(80) {62/42(52) - 137/73(93)} mmHg
   RR: 32 (26 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.8 kg (admission): 55 kg
   CVP: 13 (3 - 15)mmHg
   Total In:
                                                                  2,043 mL
                                                                    709 mL
   PO:
   TF:
                                                                  1,092 mL
                                                                    490 mL
   IVF:
                                                                    951 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    460 mL
   Urine:
                                                                  1,350 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    693 mL
                                                                    249 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 468 (410 - 620) mL
   PS : 10 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 103
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: ///28/
   Ve: 13.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed, blinks to
   voice
   Labs / Radiology
   9.9 g/dL
   140 K/uL
   121 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.2 mEq/L
   33 mg/dL
   110 mEq/L
   143 mEq/L
   30.0 %
   17.9 K/uL
        [image002.jpg]
                            [**2129-12-18**]  09:02 PM
                            [**2129-12-18**]  10:52 PM
                            [**2129-12-19**]  02:05 AM
                            [**2129-12-19**]  02:10 AM
                            [**2129-12-19**]  05:50 AM
                            [**2129-12-19**]  12:06 PM
                            [**2129-12-19**]  11:02 PM
                            [**2129-12-20**]  03:14 AM
                            [**2129-12-20**]  03:25 AM
                            [**2129-12-21**]  03:40 AM
   WBC
   25.6
   19.6
   17.9
   Hct
   31.8
   29.9
   30.0
   Plt
   222
   183
   140
   Cr
   1.4
   1.0
   0.9
   TCO2
   31
   27
   30
   30
   30
   27
   27
   Glucose
   125
   137
   121
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:2.4 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:1.7
   mg/dL
   Assessment and Plan
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   MS might be slightly better today as he blinked to voice, but not
   clearly following commands.  However still worrisome so will get CT
   head and neuro consult.
   Sepsis with UTI:  entrococcus sensitive to amp, so d/c all antibiotics
   except ampicillin.
   respiratory failure:  RR is a little high.  We can try and diurese
   respiratory function.
   acute renal failure:  improved.
   hematemesis:  no further bleeding
   foley trauma:  leave in place for now.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-12-21**] 01:14 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-12-18**] 09:51 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2129-12-22 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status
   24 Hour Events:
   - ABG's: noon 7.51/37/89/31 --> 630p 7.47/42/104/31
   - Switched to Ampicillin
   - Non con head CT this pm --> f/u final read
   - Restarted on ASA and Lipitor
   - Neuro consult: Severe encephalopathy, opens eyes but not following
   commands, L eye ptosis and pupillary assymetry (surgical pupils),
   asymmetric motor exam with R arm and L leg moving but not R leg or L
   arm. Concern for possible embolic event, infarction of brainstem or
   thalami. Also at risk for general hypoxic event. Rec: CT with contrast
   and CTA of head/neck. TEE for source of emboli. Broad infxn w/u
   including CT torso (had abd/pelvis this admission though, not chest),
   if concern for seizures, could repeat EEG. LP could still be
   considered.
   - 20 mg IV Lasix --> 3pm lytes f/u --> NORMAL
   - Sent for CTA (with NAC) per Neuro recs: WET read no vascular
   anomalies seen. No areas of vascular narrowing or occlusion.
   - B/c was given contrast, watching UOP after CTA: 500cc NS bolus given
   with good UOP.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2129-12-19**] 07:37 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-20**] 04:00 AM
   Vancomycin - [**2129-12-20**] 08:58 AM
   Fluconazole - [**2129-12-20**] 05:00 PM
   Piperacillin - [**2129-12-21**] 06:42 AM
   Ampicillin - [**2129-12-22**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2129-12-21**] 12:05 PM
   Heparin Sodium (Prophylaxis) - [**2129-12-22**] 02:00 AM
   Pantoprazole (Protonix) - [**2129-12-22**] 05:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-22**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 78 (65 - 81) bpm
   BP: 126/52(75) {67/38(53) - 126/77(85)} mmHg
   RR: 25 (11 - 34) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 52.8 kg (admission): 55 kg
    CVP: 36 (5 - 90)mmHg
   Total In:
                                                                  1,893 mL
                                                                    999 mL
   PO:
   TF:
                                                                  1,092 mL
                                                                    318 mL
   IVF:
                                                                    801 mL
                                                                    681 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                    600 mL
   Urine:
                                                                  2,255 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -362 mL
                                                                    399 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 548 (475 - 628) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 76
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: 7.48/41/102/30/6
   Ve: 13.2 L/min
   PaO2 / FiO2: 291
   Physical Examination
   Gen: intubated and off sedation.  Opens and closes eyes, squeezes hands
   and wiggles toes on command.
   Chest: moving air well bilaterally
   CV: hyperdynamic right ventricle low in chest.
   Abdomen: non-distended; normal BS
   Ext: no edema, cachectic.
   No blood visualized in Foley urine.
   Labs / Radiology
   118 K/uL
   9.3 g/dL
   107 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.8 mEq/L
   31 mg/dL
   107 mEq/L
   143 mEq/L
   27.6 %
   14.9 K/uL
        [image002.jpg]
                            [**2129-12-19**]  12:06 PM
                            [**2129-12-19**]  11:02 PM
                            [**2129-12-20**]  03:14 AM
                            [**2129-12-20**]  03:25 AM
                            [**2129-12-21**]  03:40 AM
                            [**2129-12-21**]  12:09 PM
                            [**2129-12-21**]  05:09 PM
                            [**2129-12-21**]  06:27 PM
                            [**2129-12-22**]  04:26 AM
                            [**2129-12-22**]  05:15 AM
   WBC
   19.6
   17.9
   14.9
   Hct
   29.9
   30.0
   27.6
   Plt
   183
   140
   118
   Cr
   1.0
   0.9
   0.8
   0.7
   TCO2
   30
   27
   27
   31
   31
   31
   Glucose
   137
   121
   138
   107
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.6
   mg/dL
   Imaging: [**12-21**] CTA head: no vascular anomalies seen. No areas of
   vascular narrowing or occlusion. final read pending reformats.
   [**12-21**] n/c Head CT: multiple old infarcts in right frontal region and
   thalami.  No acute process.
   EEG: [**12-20**]:
   This is a mildly abnormal EEG due to the presence of a somewhat slow
   and disorganized background. This pattern is suggestive of a mild
   encephalopathy of toxic, metabolic, infectious, or anoxic etiology. No
   focal findings or epileptiform features were seen.
   Assessment and Plan
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   An 84 year old gentleman admitted from [**Hospital3 33**] Hospital with
   respiratory failure, hematuria and elevated lactate, who developed a
   pressor requirement upon admission.
   .
   #Altered mental status: Patient is now improving and is now interactive
   and following commands, though extremely week.  His altered mental
   status was likely multifactorial due to infection and toxic/metabolic
   from medications.  He is being kept off of sedation.
   - f/u final read of CVA
   - Neurology consult yesterday; appreciate their rec
   .
   #Sepsis:  Patient presented with elevated WBC count, tachycardia,
   hypothermia, elevated lactate consistent with sepsis. Appears to have
   been urosepsis.  Has had multiple previous UTI
s, and then with
   traumatic foley placement at OSH.  Now on just ampicillin with goal of
   14 day course based on OSH sensitivies.  Now afebrile.
   - Now on just ampicillin (enterococcus is ampicillin sensitive) for
   total of 14 day course of antibiotics (include the vancomycin in this
   14-day course; started [**12-18**], 14-day course ends [**2129-12-31**])
   - Cx for spiking fevers
   - IVF for UOP < 30 cc/hr, SBP < 90
   .
   #Respiratory Failure:  Patient with severe emphysema on CT scan with
   respiratory failure in the setting of severe acidosis with tachypnea
   and possible developing left sided infiltrate. Pt was on AC yesterday
   but has switched to CPAP and tolerated fairly well, with good ABG's.
   - continue mechanical ventilation, wean as tolerated by mental status;
   with improving mental status, may be almost ready for extubation.
   - passed RSBI this morning, attempt SBT
   - Ampicillin for urosepsis
   - Albuterol and ipratropium MDIs
   - 20mg IV lasix now and likely repeat this afternoon for goal 1L
   negative today; check 3 PM lytes
   .
   #Metabolic Alkalosis: Bicarb had been rising; most likely due to the
   D5W with HCO3. Will continue to trend and if continues to be high,
   consider Acetazolamide.   Has some respiratory alkalosis.
   .
   #Acute Renal Failure:  Creatinine now in normal range. On admission,
   was likely pre-renal in the setting of sepsis, may also have component
   of ATN and initially post-renal obstruction.  Foley catheter now
   successfully placed. Cr has been trending down nicely with IVF's.
   - Trend Cr and UOP with IVF to maintain UOP > 30 cc/hr if possible
   - Foley catheter now in place = do NOT take out, per Urology, as below
   .
   #Hematemasis:  Unclear history.  Currently guiac negative with bilious
   NGT drainage.
   - trend hematocrits
   - active type and screen
   - transfusion goal < 30 in septic shock; but improving today so will
   likely just follow
   - Convert today to PO PPI (lansoprazole)
   - restart home ASA
   .
   #Traumatic Foley Placement:  Patient transferred after concern that
   foley may be placed in scrotum.  Initial CT concerning for
   intraabdominal placement, now most likely instead bladder
   diverticulum.  Urology did cystoscopy and placed Foley. Their recs are
   to keep Foley in place, do not remove without asking urology first,
   keep secure to thigh with 2 catheter secures, f/u with Urology when
   acute illness over.
   .
   #Atrial fibrillation/PVCs:  Patient s/p pacemaker for unclear
   underlying rhythm although [**Hospital3 **] notes history of atrial
   fibrillation.  Currently in sinus tachycardia with PVCs/intermittent
   conduction block.  Digoxin level was normal.  [**Month (only) 8**] need anticoagulation
   given appearance of multiple ischemic events on head CT and atrial
   fibrillation.  Will discuss with patient once extubated and possibly
   with PCP.
   [**Name Initial (NameIs) **] contact PCP after [**Holiday **].
   - no need to start digoxin because of rate being low
   - monitor on telemetry
   - EKG this morning
   .
   #Elevated Blood Sugars:  Blood sugars in the 500s on arrival to the
   MICU and started on insulin gtt. Gtt has now been stopped and his BS's
   have been in the 100's.
   - Keep eye on BS and either restart gtt if very elevated consistently
   or start SSI.
   .
   #Coronary Artery Disease:  Details unclear.
   - continue aspirin 81mg daily (home med)
   .
   #Hyperlipidemia:
   - continue lipitor 10mg daily (home med)
   .
   FEN: IVF for resuscitation and to maintain UOP's and MAP's as above,
   replete electrolytes, tube feeds, oral nystatin.
   Prophylaxis: Subcutaneous heparin, change IV PPI to PO lansoprazole.
   Access: CVL, Arterial line, 20g PIV.
   Code:  DNR, already intubated. Per daughter, NO chest compressions,
   nothing to make him suffer.
   Communication: Patient, Wife [**Name (NI) 10077**] [**Telephone/Fax (1) 10078**], Son [**Name (NI) 5371**], Daughter
   [**Name (NI) 412**] is very involved
   Disposition: MICU
intubated and altered mental status

2129-12-22 11:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   80 yo man with severe COPD, admitted with sepsis from UTI.  Has had
   persistently poor MS.  neuro consults yesterday recommended CTA head.
   Is more awake today following some commands.  Very weak.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-20**] 04:00 AM
   Vancomycin - [**2129-12-20**] 08:58 AM
   Fluconazole - [**2129-12-20**] 05:00 PM
   Piperacillin - [**2129-12-21**] 06:42 AM
   Ampicillin - [**2129-12-22**] 08:12 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2129-12-21**] 12:05 PM
   Pantoprazole (Protonix) - [**2129-12-22**] 05:53 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-22**] 10:21 AM
   Other medications:
   chlorhex
   ampicillin
   lipitor
   asa
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-22**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 74 (65 - 81) bpm
   BP: 111/51(68) {87/38(53) - 126/77(85)} mmHg
   RR: 25 (11 - 31) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 52.8 kg (admission): 55 kg
   CVP: 36 (11 - 90)mmHg
   Total In:
                                                                  1,893 mL
                                                                  1,450 mL
   PO:
   TF:
                                                                  1,092 mL
                                                                    499 mL
   IVF:
                                                                    801 mL
                                                                    861 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                    983 mL
   Urine:
                                                                  2,255 mL
                                                                    983 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -362 mL
                                                                    467 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 476 (476 - 628) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 76
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.48/41/102/30/6
   Ve: 12.8 L/min
   PaO2 / FiO2: 291
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: posteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   118 K/uL
   107 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.8 mEq/L
   31 mg/dL
   107 mEq/L
   143 mEq/L
   27.6 %
   14.9 K/uL
        [image002.jpg]
                            [**2129-12-19**]  12:06 PM
                            [**2129-12-19**]  11:02 PM
                            [**2129-12-20**]  03:14 AM
                            [**2129-12-20**]  03:25 AM
                            [**2129-12-21**]  03:40 AM
                            [**2129-12-21**]  12:09 PM
                            [**2129-12-21**]  05:09 PM
                            [**2129-12-21**]  06:27 PM
                            [**2129-12-22**]  04:26 AM
                            [**2129-12-22**]  05:15 AM
   WBC
   19.6
   17.9
   14.9
   Hct
   29.9
   30.0
   27.6
   Plt
   183
   140
   118
   Cr
   1.0
   0.9
   0.8
   0.7
   TCO2
   30
   27
   27
   31
   31
   31
   Glucose
   137
   121
   138
   107
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Mental status:  Improved today.  Following commands, but not moving
   limbs.
   Has embolic CVAs, and has had intermittent AF which may be a source.
   But cannot anticoagulate now given h/o recent GIB, but consider as
   outpatient.
   Respiratory failure:  Will try SBT.
   Sepsis with UTI:  14 days of ampicillin
   ARF:  improved
   Aflutter:  under control
   continue diuresis
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-12-22**] 10:15 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-12-18**] 09:51 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2129-12-23 11:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo man with respiratory failure, enterococcal sepsis from UTI.
   Overall doing well.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2129-12-20**] 05:00 PM
   Piperacillin - [**2129-12-21**] 06:42 AM
   Ampicillin - [**2129-12-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2129-12-22**] 06:16 PM
   Heparin Sodium (Prophylaxis) - [**2129-12-23**] 04:44 AM
   Lansoprazole (Prevacid) - [**2129-12-23**] 08:00 AM
   Other medications:
   Asa
   prevacid
   nystatin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-23**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 105 (74 - 108) bpm
   BP: 132/65(84) {83/45(60) - 149/65(88)} mmHg
   RR: 34 (23 - 42) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
   Wgt (current): 64.1 kg (admission): 55 kg
   CVP: 23 (7 - 23)mmHg
   Total In:
                                                                  2,637 mL
                                                                  1,119 mL
   PO:
   TF:
                                                                  1,087 mL
                                                                    494 mL
   IVF:
                                                                  1,320 mL
                                                                    380 mL
   Blood products:
   Total out:
                                                                  3,453 mL
                                                                    775 mL
   Urine:
                                                                  3,453 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -816 mL
                                                                    344 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 428 (283 - 457) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 15 cmH2O
   SpO2: 93%
   ABG: 7.49/45/68/32/9
   Ve: 14.4 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   138 K/uL
   126 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.1 mEq/L
   31 mg/dL
   106 mEq/L
   143 mEq/L
   28.5 %
   15.7 K/uL
        [image002.jpg]
                            [**2129-12-21**]  03:40 AM
                            [**2129-12-21**]  12:09 PM
                            [**2129-12-21**]  05:09 PM
                            [**2129-12-21**]  06:27 PM
                            [**2129-12-22**]  04:26 AM
                            [**2129-12-22**]  05:15 AM
                            [**2129-12-22**]  01:22 PM
                            [**2129-12-22**]  04:05 PM
                            [**2129-12-23**]  01:44 AM
                            [**2129-12-23**]  01:57 AM
   WBC
   17.9
   14.9
   15.7
   Hct
   30.0
   27.6
   28.5
   Plt
   140
   118
   138
   Cr
   0.9
   0.8
   0.7
   0.8
   0.7
   TCO2
   31
   31
   31
   35
   35
   Glucose
   121
   138
   107
   127
   126
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Fever:  will treat empirically for VAP given increases secretions, WBC,
   and fevers.  Start vanco/cefepime/cipro.
   Respiratory failure:  looks a little labored today, and RSBI is
   slightly high.
   MS:  improved now following commands
   Overall is functional status was poor before he came to the hospital
   and given this prolonged illness with complications overall
   prognosis is poor.  Will discuss with family.
   Afib:  is back in afib
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-12-23**] 08:21 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-12-18**] 09:51 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2129-12-24 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2129-12-23**] 10:24 AM
 SPUTUM CULTURE - At [**2129-12-23**] 10:25 AM
 URINE CULTURE - At [**2129-12-23**] 10:25 AM
 EKG - At [**2129-12-23**] 01:00 PM
 FEVER - 101.6
F - [**2129-12-23**] 10:00 AM
   [**12-23**]
   - spiked and re-cultured  101.6 at 10am yesterday
   - started pressors and antibiotics because looked septic in the
   morning  (dropped pressure to SBP 60)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2129-12-21**] 06:42 AM
   Ampicillin - [**2129-12-23**] 08:00 AM
   Vancomycin - [**2129-12-23**] 08:00 PM
   Cefipime - [**2129-12-24**] 12:00 AM
   Ciprofloxacin - [**2129-12-24**] 02:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2129-12-23**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-23**] 06:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-24**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38
C (100.4
   HR: 98 (84 - 108) bpm
   BP: 131/55(77) {59/34(43) - 154/68(94)} mmHg
   RR: 27 (22 - 34) insp/min
   SpO2: 93%
   Heart rhythm: V Paced
   Wgt (current): 58.1 kg (admission): 55 kg
    CVP: 6 (6 - 11)mmHg
   Total In:
                                                                  5,649 mL
                                                                    711 mL
   PO:
   TF:
                                                                    913 mL
                                                                    295 mL
   IVF:
                                                                  4,291 mL
                                                                    316 mL
   Blood products:
   Total out:
                                                                  1,442 mL
                                                                    365 mL
   Urine:
                                                                  1,442 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                  4,207 --> 11.5L positive through LOS  mL
                                                                    346 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 428 (428 - 428) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 93%
   ABG: 7.46/39/78/29/3    --> THIS AM O2 IMPROVED
   Ve: 17.6 L/min
   PaO2 / FiO2: 195
   Physical Examination
   Awakens to voice, tracks around room, follows commands, tries to answer
   questions but has ETT in mouth. No distress. Lungs clear with decent
   air movement. Heart difficult to auscultate. Abd thin, benign, no TTP.
   No BLE edema. Has 2+ radial and DP
s bilaterally.
   Labs / Radiology
   189 K/uL
   8.9 g/dL
   120 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.0 mEq/L
   27 mg/dL
   109 mEq/L
   143 mEq/L
   28.4 %
   12.6 K/uL
        [image002.jpg]
                            [**2129-12-21**]  06:27 PM
                            [**2129-12-22**]  04:26 AM
                            [**2129-12-22**]  05:15 AM
                            [**2129-12-22**]  01:22 PM
                            [**2129-12-22**]  04:05 PM
                            [**2129-12-23**]  01:44 AM
                            [**2129-12-23**]  01:57 AM
                            [**2129-12-23**]  12:34 PM
                            [**2129-12-24**]  04:14 AM
                            [**2129-12-24**]  05:53 AM
   WBC
   14.9
   15.7
   12.6
   Hct
   27.6
   28.5
   28.4
   Plt
   118
   138
   189
   Cr
   0.7
   0.8
   0.7
   0.6
   TCO2
   31
   31
   35
   35
   30
   29
   Glucose
   107
   127
   126
   120
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:1.3 mmol/L
   THIS AM , Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:7.8 mg/dL, Mg++:2.1
   mg/dL, PO4:2.0 mg/dL    LOW
   Fluid analysis / Other labs: UA [**12-23**] Lg blood, neg nitrite small LE,
   [**12-16**] WBC, few bacteria
   Imaging: [**12-23**] CXR
   IMPRESSION:
   1) Endotracheal tube tip 4.8 cm above the carina.
   2) No significant change in the cardiopulmonary pathology except for
   minimal
   increase in the left lung base opacity.
   [**12-21**] CT head and CTA head
   No major abnmls, possible old embolic infarct
   Microbiology: [**12-23**] poor specimen sputum, Ucx pending, Bcx x2 negative
   [**12-18**] UCx Strep viridans and enterococcus 10-100k, [**Last Name (un) 46**] pending
   Assessment and Plan
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   An 84 year old gentleman admitted from [**Hospital3 33**] Hospital with
   respiratory failure, hematuria and elevated lactate, who developed a
   pressor requirement upon admission, had OSH Cx
s positive for GPC
s and
   was started on Ampicillin but spiked higher temps and now broadened to
   Vanc/Cefipime/Cipro, with enterococcus and strep viridans in urine.
   Continues to be intubated and on minimal pressors, but is waking up,
   following commands, and appears overall much improved.
   Acute issues:
   #Altered mental status: Patient is improving and is now interactive and
   following commands.  His altered mental status was likely
   multifactorial due to infection and toxic/metabolic from medications.
   He is being kept off of sedation.  CTA of head and neck did not reveal
   abnormalities.
   - Pt is improving from mental status standpoint, hold off on AMS
   producing meds, frequent reorientation, no sedation for now.
   - If decompensates, consider LP which has not been done to date
   #Sepsis:  Patient presented with elevated WBC count, tachycardia,
   hypothermia, elevated lactate consistent with sepsis. Appears to have
   been urosepsis, has positive UCx here but all blood has been negative.
    Has had multiple previous UTI
s, and then with traumatic foley
   placement at OSH.  Was on just Ampicillin but now broadened to
   Vanc/Cefepime/Cipro, day 2 due to spiking fevers [**12-23**]. Continues
   currently on minimal pressure support and BP
s look good.
   - Will wean Levo today then d/c. If bp
s lower, go with IVF
s first, as
   his CVP is low, and BUN/Cr ratio is elevated, suggesting
   intravascularly down
   - Watch fever curve, consider broadening if continued spikes  -->
   Flagyl
   - Cx for spiking fevers
   - IVF for UOP < 30 cc/hr, SBP < 90
   - f/u neuro recs: recommend broad infectious workup, including possible
   CT torso.
   #Respiratory Failure:  Patient with severe emphysema on CT scan with
   respiratory failure in the setting of severe acidosis with tachypnea
   and possible developing left sided infiltrate. Pt was switched between
   AC and CPAP, currently on AC to allow him to rest.
   - Trial of CPAP today with follow up ABG
   - Can allow a more lenient goal of CO2 50 given that he has h/o COPD.
   - Consider RSBI and SBT tomorrow
   - Albuterol and ipratropium MDIs
   #Atrial fibrillation/PVCs:  Patient s/p pacemaker for unclear
   underlying rhythm although [**Hospital3 33**] notes history of atrial
   fibrillation. He has been between sinus tachycardia with PVC
   intermittent conduction block, and his current rhythm is paced and
   tachycardic. He was on home Digoxin which we had not restarted due to a
   normal rate in the past, but this am is tachy to the low 100
   Digoxin level here was normal.
   - contact PCP after [**Holiday **].
   - Will restart Digoxin today at home dose
   - monitor on telemetry
   - [**Month (only) 8**] need anticoagulation given appearance of multiple ischemic events
   on head CT and history of atrial fibrillation, but this can be started
   once he is more stable.
   Other less acute or stable issues:
   #Metabolic Alkalosis: Bicarb had been rising; thought at first to be
   due to resuscitation with D5W with HCO3, but has now persisted. Other
   etiologies include loss of H+ from GI or kidneys, contraction alkalosis
   (less likely given 11L positive through LOS, however, he could be
   intravascularly deplete), posthypercapnia (although hasn
t really been
   hypercapneic since admission), volume depletion (possible), hyperaldo,
   and hypoK (neither of which there have been much evidence for).  Will
   continue to trend and if continues to be high, consider
   Acetazolamide.
   - trend ABG's
   - Check urine chloride this am
   #Acute Renal Failure:  Creatinine now in normal range. On admission,
   was likely pre-renal in the setting of sepsis, may also have component
   of ATN and initially post-renal obstruction.  Foley catheter now
   successfully placed. Cr has been trending down nicely with IVF's.
   - Trend Cr and UOP with IVF to maintain UOP > 30 cc/hr if possible
   - Foley catheter now in place = do NOT take out, per Urology, as below
   #Traumatic Foley Placement:  Patient transferred after concern that
   foley may be placed in scrotum.  Initial CT concerning for
   intraabdominal placement, now most likely instead bladder
   diverticulum.  Urology did cystoscopy and placed Foley. Their recs are
   to keep Foley in place, do not remove without asking urology first,
   keep secure to thigh with 2 catheter secures, f/u with Urology when
   acute illness over.
   #Elevated Blood Sugars:  Blood sugars in the 500s on arrival to the
   MICU and started on insulin gtt. Gtt has now been stopped and his BS's
   have been in the 100's.
   - Keep eye on BS and either restart gtt if very elevated consistently
   or start SSI.
   #Coronary Artery Disease:  Details unclear.
   - continue aspirin 81mg daily (home med)
   #Hyperlipidemia:
   - continue lipitor 10mg daily (home med)
   FEN: IVF for resuscitation and to maintain UOP's and MAP's as above,
   replete electrolytes, tube feeds with pulmonary nutren, oral nystatin.
   Prophylaxis: Subcutaneous heparin, change IV PPI to PO lansoprazole.
   Access: CVL, Arterial line, 20g PIV.
   Code:  DNR, already intubated. Per daughter, NO chest compressions,
   nothing to make him suffer.
   Communication: Patient, Wife [**Name (NI) 10077**] [**Telephone/Fax (1) 10078**], Son [**Name (NI) 5371**], Daughter
   [**Name (NI) 412**] is very involved
   Disposition: MICU
intubated and altered mental status
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-12-23**] 11:12 PM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-12-18**] 09:51 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-12-24 11:01:00 Physician Attending Progress Note
Chief Complaint: Bactermia, hypotensive, metabolic acidosis, acute
   respiratory failure.
   HPI:
   Restarted on vasopressors yesterday for drop in BP.
   Oxygenation acceptable on FIO2=0.4.
   Electrolytes acceptable. No acidosis.
   24 Hour Events:
 BLOOD CULTURED - At [**2129-12-23**] 10:24 AM
 SPUTUM CULTURE - At [**2129-12-23**] 10:25 AM
 URINE CULTURE - At [**2129-12-23**] 10:25 AM
 EKG - At [**2129-12-23**] 01:00 PM
 FEVER - 101.6
F - [**2129-12-23**] 10:00 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2129-12-23**] 08:00 AM
   Cefipime - [**2129-12-24**] 12:00 AM
   Ciprofloxacin - [**2129-12-24**] 02:00 AM
   Vancomycin - [**2129-12-24**] 08:30 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-12-24**] 08:30 AM
   Lansoprazole (Prevacid) - [**2129-12-24**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-24**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.5
C (99.5
   HR: 105 (84 - 108) bpm
   BP: 135/59(82) {59/34(43) - 154/68(94)} mmHg
   RR: 29 (22 - 34) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
   Wgt (current): 58.1 kg (admission): 55 kg
   CVP: 5 (5 - 11)mmHg
   Total In:
                                                                  5,649 mL
                                                                  1,214 mL
   PO:
   TF:
                                                                    913 mL
                                                                    459 mL
   IVF:
                                                                  4,291 mL
                                                                    545 mL
   Blood products:
   Total out:
                                                                  1,442 mL
                                                                    720 mL
   Urine:
                                                                  1,442 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,207 mL
                                                                    494 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 20 cmH2O
   Plateau: 12 cmH2O
   SpO2: 94%
   ABG: 7.46/39/77.[**Numeric Identifier 253**]/29/3
   Ve: 12 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Crackles : Right mid axillary line, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not assessed on vent, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   189 K/uL
   120 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.0 mEq/L
   27 mg/dL
   109 mEq/L
   143 mEq/L
   28.4 %
   12.6 K/uL
        [image002.jpg]
                            [**2129-12-21**]  06:27 PM
                            [**2129-12-22**]  04:26 AM
                            [**2129-12-22**]  05:15 AM
                            [**2129-12-22**]  01:22 PM
                            [**2129-12-22**]  04:05 PM
                            [**2129-12-23**]  01:44 AM
                            [**2129-12-23**]  01:57 AM
                            [**2129-12-23**]  12:34 PM
                            [**2129-12-24**]  04:14 AM
                            [**2129-12-24**]  05:53 AM
   WBC
   14.9
   15.7
   12.6
   Hct
   27.6
   28.5
   28.4
   Plt
   118
   138
   189
   Cr
   0.7
   0.8
   0.7
   0.6
   TCO2
   31
   31
   35
   35
   30
   29
   Glucose
   107
   127
   126
   120
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.0
   mg/dL
   Assessment and Plan
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ACIDOSIS
   ANEMIA
   =================================
   Hypotension yesterday for unclear reasons - possibly intravascularly
   volume depleted; levophed restarted. CVP now 6 on PEEP=5. BP 140
   systolic on rounds. Will try to stop
   Oxygnation improving. Minute ventilation 15 L/min and RSBI 98 this AM.
   Not ready for extubation yet. ABG's suggest that he may have chronic
   hypecapnia. Would switch from AC to PSV with goal of PaCO2 of
   approximately 50 for now. Given underlying emphysema doubt that he will
   be able to come off ventilator unless PaCO2 in the 50's.
   Continue tube feeds.
   Mental status improved.
   Hct stable. Not at transfusion threshold.
   Restarting patient's home digoxin.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-12-23**] 11:12 PM 45.[**Telephone/Fax (5) 10217**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2129-12-18**] 09:51 AM
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2129-12-25 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - Start digoxin at 1/2 of his home dose
   - Trial of PS from AC, goal CO2 can be 50 since he is COPD'er
   - Down on the Levo and give IVF's for bp --> gave 1L NS --> UOP good
   and CVP's have increased [**3-30**] to [**7-8**] --> now off Levo
   - ABG in the afternoon 7.45/40/69/29  --> went up on PS from [**5-31**] to
   [**12-31**], continues 40%   --> later tonight, plan to go to [**10-31**] and test
   RSBI
   - Wanted to do SBT but was tachypneic, tachycardic.
   - Met alkalosis, so got urine chloride --> 119 (saline resistant and
   not hypertensive, so DDx = diuretics use, hypoK (not seen), Bartter's
   Gitelman's, exogenous alkali?
   - UOP good and 2L through today, but CVP still low [**3-30**] so given 500cc
   bolus of NS --> CVP's rose appropriately [**1-8**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2129-12-23**] 08:00 AM
   Vancomycin - [**2129-12-24**] 08:18 PM
   Cefipime - [**2129-12-25**] 12:39 AM
   Ciprofloxacin - [**2129-12-25**] 03:27 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2129-12-24**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-25**] 12:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-25**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.9
   HR: 106 (98 - 112) bpm
   BP: 104/65(79) {101/47(62) - 135/70(87)} mmHg
   RR: 26 (18 - 35) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 58.1 kg (admission): 55 kg
    CVP: 12 (1 - 12)mmHg
   Total In:
                                                                  3,655 mL
                                                                    816 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                     32 mL
   IVF:
                                                                  2,066 mL
                                                                    785 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    445 mL
   Urine:
                                                                  1,640 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,015 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 385 (0 - 552) mL
   PS : 10 cmH2O
   RR (Set): 435
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 10 cmH2O
   Plateau: 12 cmH2O
   SpO2: 95%
   ABG: 7.45/40/69/28/3
   Ve: 11.3 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Awakens to voice, tracks around room, follows commands, tries to answer
   questions but has ETT in mouth. No distress. Lungs clear with decent
   air movement. Heart difficult to auscultate. Abd thin, benign, no TTP.
   No BLE edema. Has 2+ radial and DP
s bilaterally.
   Labs / Radiology
   199 K/uL
   8.4 g/dL
   131 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   26 mg/dL
   106 mEq/L
   138 mEq/L
   25.4 %
   11.7 K/uL
        [image002.jpg]
                            [**2129-12-22**]  05:15 AM
                            [**2129-12-22**]  01:22 PM
                            [**2129-12-22**]  04:05 PM
                            [**2129-12-23**]  01:44 AM
                            [**2129-12-23**]  01:57 AM
                            [**2129-12-23**]  12:34 PM
                            [**2129-12-24**]  04:14 AM
                            [**2129-12-24**]  05:53 AM
                            [**2129-12-24**]  12:11 PM
                            [**2129-12-25**]  04:16 AM
   WBC
   15.7
   12.6
   11.7
   Hct
   28.5
   28.4
   25.4
   Plt
   138
   189
   199
   Cr
   0.8
   0.7
   0.6
   0.6
   TCO2
   31
   35
   35
   30
   29
   29
   Glucose
   127
   126
   120
   131
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.6
   mg/dL
   Imaging: [**12-25**] CXR: unchanged, ET tube high? though carina very low.
   Microbiology: [**12-23**] sputum contaminated
   [**12-23**] blood cx pending
   Assessment and Plan
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   An 84 year old gentleman admitted from [**Hospital3 33**] Hospital with
   respiratory failure, hematuria and elevated lactate, who developed a
   pressor requirement upon admission, had OSH Cx
s positive for GPC
s and
   was started on Ampicillin but spiked higher temps and now broadened to
   Vanc/Cefipime/Cipro, with enterococcus and strep viridans in urine.
   Continues to be intubated and on minimal pressors, but is waking up,
   following commands, and appears overall much improved.
   #Respiratory Failure:  Patient with severe emphysema on CT scan with
   respiratory failure in the setting of severe acidosis with tachypnea
   and possible developing left sided infiltrate. Patient had been on PS
   to because he was tachycardic and tachypneic, this morning back onto
   CPAP.
   - Trial of CPAP today with follow up ABG
   - Can allow a more lenient goal of CO2 50 given that he has h/o COPD.
   - Serial ABG
   - Consider RSBI and SBT tomorrow
   - Albuterol and ipratropium MDIs
   #Altered mental status: Patient is improving and is now interactive and
   following commands.  His altered mental status was likely
   multifactorial due to infection and toxic/metabolic from medications.
   He is being kept off of sedation.  CTA of head and neck did not reveal
   abnormalities.
   - Pt is improving from mental status standpoint, hold off on AMS
   producing meds, frequent reorientation, no sedation for now.
   - If decompensates, consider LP which has not been done to date
   #Sepsis:  Patient presented with elevated WBC count, tachycardia,
   hypothermia, elevated lactate consistent with sepsis. Appears to have
   been urosepsis, has positive UCx here but all blood has been negative.
   Has had multiple previous UTI
s, and then with traumatic foley
   placement at OSH.  Was on just Ampicillin but now broadened to
   Vanc/Cefepime/Cipro, day 2 due to spiking fevers [**12-23**]. Continues
   currently on minimal pressure support and BP
s look good.
   - Will wean Levo today then d/c. If bp
s lower, go with IVF
s first, as
   his CVP is low, and BUN/Cr ratio is elevated, suggesting
   intravascularly down
   - Watch fever curve, consider broadening if continued spikes  -->
   Flagyl
   - Cx for spiking fevers
   - IVF for UOP < 30 cc/hr, SBP < 90
   - f/u neuro recs: recommend broad infectious workup, including possible
   CT torso.
   #Atrial fibrillation/PVCs:  Patient s/p pacemaker for unclear
   underlying rhythm although [**Hospital3 33**] notes history of atrial
   fibrillation. He has been between sinus tachycardia with PVC
   intermittent conduction block, and his current rhythm is paced and
   tachycardic. He was on home Digoxin which we had not restarted due to a
   normal rate in the past, but this am is tachy to the low 100
   Digoxin level here was normal.
   - contact PCP after [**Holiday **].
   - Will restart Digoxin today at home dose
   - monitor on telemetry
   - [**Month (only) 8**] need anticoagulation given appearance of multiple ischemic events
   on head CT and history of atrial fibrillation, but this can be started
   once he is more stable.
   # Metabolic Alkalosis: Bicarb had been rising; thought at first to be
   due to resuscitation with D5W with HCO3, but has now persisted. Other
   etiologies include loss of H+ from GI or kidneys, contraction alkalosis
   (less likely given 11L positive through LOS, however, he could be
   intravascularly deplete), posthypercapnia (although hasn
t really been
   hypercapneic since admission), volume depletion (possible), hyperaldo,
   and hypoK (neither of which there have been much evidence for).  Will
   continue to trend and if continues to be high, consider
   Acetazolamide.
   - trend ABG's
   - Check urine chloride this am
   Other less acute or stable issues:
   #Acute Renal Failure:  Creatinine now in normal range. On admission,
   was likely pre-renal in the setting of sepsis, may also have component
   of ATN and initially post-renal obstruction.  Foley catheter now
   successfully placed. Cr has been trending down nicely with IVF's.
   - Trend Cr and UOP with IVF to maintain UOP > 30 cc/hr if possible
   - Foley catheter now in place = do NOT take out, per Urology, as below
   #Traumatic Foley Placement:  Patient transferred after concern that
   foley may be placed in scrotum.  Initial CT concerning for
   intraabdominal placement, now most likely instead bladder
   diverticulum.  Urology did cystoscopy and placed Foley. Their recs are
   to keep Foley in place, do not remove without asking urology first,
   keep secure to thigh with 2 catheter secures, f/u with Urology when
   acute illness over.
   #Elevated Blood Sugars:  Blood sugars in the 500s on arrival to the
   MICU and started on insulin gtt. Gtt has now been stopped and his BS's
   have been in the 100's.
   - Keep eye on BS and either restart gtt if very elevated consistently
   or start SSI.
   #Coronary Artery Disease:  Details unclear.
   - continue aspirin 81mg daily (home med)
   #Hyperlipidemia:
   - continue lipitor 10mg daily (home med)
   FEN: IVF for resuscitation and to maintain UOP's and MAP's as above,
   replete electrolytes, tube feeds with pulmonary nutren, oral nystatin.
   Prophylaxis: Subcutaneous heparin, PO lansoprazole.
   Access: CVL, Arterial line, 20g PIV.
   Code:  DNR, already intubated. Per daughter, NO chest compressions,
   nothing to make him suffer.
   Communication: Patient, Wife [**Name (NI) 10077**] [**Telephone/Fax (1) 10078**], Son [**Name (NI) 5371**], Daughter
   [**Name (NI) 412**] is very involved
   Disposition: MICU
intubated and altered mental status

2129-12-25 15:03:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, COPD, acute renal failure,
   hypotension, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient on PSV through yesterday. Off vasopressors. On spontaneous
   breathing trial for the past two hours. ABG looks very good. WBC
   continues to fall toward the normal range.
   Renal function now in normal range.
   24 Hour Events:
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2129-12-23**] 08:00 AM
   Ciprofloxacin - [**2129-12-25**] 03:27 AM
   Vancomycin - [**2129-12-25**] 08:25 AM
   Cefipime - [**2129-12-25**] 12:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2129-12-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-25**] 03:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36
C (96.8
   HR: 102 (99 - 112) bpm
   BP: 118/64(81) {99/47(62) - 147/88(108)} mmHg
   RR: 25 (18 - 35) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 58.1 kg (admission): 55 kg
   CVP: 10 (3 - 12)mmHg
   Total In:
                                                                  3,656 mL
                                                                  1,165 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                     32 mL
   IVF:
                                                                  2,066 mL
                                                                  1,074 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    930 mL
   Urine:
                                                                  1,640 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,016 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 584 (385 - 704) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 5 cmH2O
   SpO2: 96%
   ABG: 7.45/40/94.[**Numeric Identifier 299**]/28/3
   Ve: 5.8 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: Bilaterally, No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   199 K/uL
   131 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   26 mg/dL
   106 mEq/L
   138 mEq/L
   25.4 %
   11.7 K/uL
        [image002.jpg]
                            [**2129-12-22**]  01:22 PM
                            [**2129-12-22**]  04:05 PM
                            [**2129-12-23**]  01:44 AM
                            [**2129-12-23**]  01:57 AM
                            [**2129-12-23**]  12:34 PM
                            [**2129-12-24**]  04:14 AM
                            [**2129-12-24**]  05:53 AM
                            [**2129-12-24**]  12:11 PM
                            [**2129-12-25**]  04:16 AM
                            [**2129-12-25**]  02:06 PM
   WBC
   15.7
   12.6
   11.7
   Hct
   28.5
   28.4
   25.4
   Plt
   138
   189
   199
   Cr
   0.8
   0.7
   0.6
   0.6
   TCO2
   35
   35
   30
   29
   29
   29
   Glucose
   127
   126
   120
   131
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.6
   mg/dL
   Imaging: CXR: gross hyperinflation. Slight increase in markings at left
   base.
   Assessment and Plan
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   =============================
   Patient is improving on several fronts. Has been on spontaneous
   breathing trial for the past 2 hours. RSBI is 75 and the patient
   appears comfortable. Patient's secretions have improved. He appears to
   be ready for extubation today. Have mask ventilation on stand-by if he
   appears distressed after extubation. Continue bronchodiators.
   Continues on antibiotics to complete course of therapy.
   Renal failure has resolved. Electrolytes and acid-base status
   acceptable.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2129-12-26 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2129-12-25**] 03:00 PM
    Previously on TF while intubated; OGt removed with ETT [**12-25**].  Weak
   cough with impaired gag reflex noted.
    Kept NPO overnight; no meds given orally.
    Speech and swallow evaluation today.  Cont to hold po
s.  Anticipate
   NGT if fails S/S study.  [**Month (only) 8**] need to consider PEG.
   Course of IV antibx for VAP. Extubated [**12-25**]. Weak cough, congested and
   rhonchorous throughout.  Unable to cough up secretions, ?swallowing
   them.
    Maintained on FT for humidifcation at 30-40% in addition to 3-4L nc.
   Nasotrach suctioned for approx 5 times between nursing and respiratory
   for sm-mod amt thick white secretions.  Deep oral suctioning for 5
   times as well. CXR done.
   o2 sats maintained in low 90
s. (hx COPD).  AM ABG wnl this am.
    Has received no sedation for >48hrs. Making eye contact and attempting
   to make needs known.
   - Start digoxin at 1/2 of his home dose
   - Trial of PS from AC, goal CO2 can be 50 since he is COPD'er
   - Down on the Levo and give IVF's for bp --> gave 1L NS --> UOP good
   and CVP's have increased [**3-30**] to [**7-8**] --> now off Levo
   - ABG in the afternoon 7.45/40/69/29  --> went up on PS from [**5-31**] to
   [**12-31**], continues 40%   --> later tonight, plan to go to [**10-31**] and test
   RSBI
   - Wanted to do SBT but was tachypneic, tachycardic.
   - Met alkalosis, so got urine chloride --> 119 (saline resistant and
   not hypertensive, so DDx = diuretics use, hypoK (not seen), Bartter's
   Gitelman's, exogenous alkali?
   - UOP good and 2L through today, but CVP still low [**3-30**] so given 500cc
   bolus of NS --> CVP's rose appropriately [**1-8**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2129-12-23**] 08:00 AM
   Vancomycin - [**2129-12-25**] 07:42 PM
   Cefipime - [**2129-12-26**] 01:02 AM
   Ciprofloxacin - [**2129-12-26**] 01:43 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2129-12-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-25**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-26**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (96.9
   HR: 97 (92 - 110) bpm
   BP: 104/47(65) {94/43(59) - 160/88(113)} mmHg
   RR: 28 (18 - 37) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
   Wgt (current): 58.1 kg (admission): 55 kg
    CVP: 8 (4 - 12)mmHg
   Total In:
                                                                  1,612 mL
                                                                    333 mL
   PO:
   TF:
                                                                     32 mL
   IVF:
                                                                  1,520 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                  1,075 mL
   Urine:
                                                                  1,900 mL
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -288 mL
                                                                   -742 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 584 (512 - 704) mL
   PS : 5 cmH2O
   RR (Spontaneous): 33
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 5 cmH2O
   SpO2: 94%
   ABG: 7.41/45/91.[**Numeric Identifier 253**]/28/2
   Ve: 5.8 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: Bilaterally, No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   228 K/uL
   8.6 g/dL
   88 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.0 mEq/L
   21 mg/dL
   105 mEq/L
   138 mEq/L
   26.3 %
   14.0 K/uL
        [image002.jpg]
                            [**2129-12-23**]  01:57 AM
                            [**2129-12-23**]  12:34 PM
                            [**2129-12-24**]  04:14 AM
                            [**2129-12-24**]  05:53 AM
                            [**2129-12-24**]  12:11 PM
                            [**2129-12-25**]  04:16 AM
                            [**2129-12-25**]  02:06 PM
                            [**2129-12-25**]  06:25 PM
                            [**2129-12-26**]  03:36 AM
                            [**2129-12-26**]  04:03 AM
   WBC
   12.6
   11.7
   14.0
   Hct
   28.4
   25.4
   26.3
   Plt
   189
   199
   228
   Cr
   0.6
   0.6
   0.5
   TCO2
   35
   30
   29
   29
   29
   29
   30
   Glucose
   120
   131
   88
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Fluid analysis / Other labs: [**2129-12-26**]  04:03a
   -----------------------------------------------
   pH 7.41 pCO2 45 pO2 92 HCO3 30
   [**2129-12-25**]  6:25p
   -----------------------------------------------
   pH 7.39 pCO2 46 pO2 142 HCO3 29
   Imaging: CXR pending
   Microbiology: [**12-23**] UCx negative
   [**12-23**] sputum comtaminated
   [**12-23**] bcx ntd
   Assessment and Plan
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   An 84 year old gentleman admitted from [**Hospital3 33**] Hospital with
   respiratory failure, hematuria and elevated lactate, who developed a
   pressor requirement upon admission, had OSH Cx
s positive for GPC
s and
   was started on Ampicillin but spiked higher temps and now broadened to
   Vanc/Cefipime/Cipro, with enterococcus and strep viridans in urine.
   Continues to be intubated and on minimal pressors, but is waking up,
   following commands, and appears overall much improved.
   #Respiratory Failure:  He has done well for a two-hour SBT and is ready
   for a trial of extubation.  Patient with severe emphysema on CT scan
   with respiratory failure in the setting of acidosis with tachypnea and
   possible developing left sided infiltrate.
   - f/u ABG post-extubtation
   - titrate O2 to sat in low 90s.
   - discuss with daughter whether re-intubation is an option if he does
   poorly after extubation.
   - Albuterol and ipratropium MDIs should be transitioned to nebulizers.
   #Altered mental status: Patient is improving and is now interactive and
   following commands.  His altered mental status is likely multifactorial
   due to infection and toxic/metabolic from medications.  He is being
   kept off of sedation.  CTA of head and neck did not reveal
   abnormalities.
   - reassess after extubation when patient can be more interactive.
   #Sepsis:  On presentation appears to have had urosepsis, w/ positive
   UCx though all blood has been negative.  Has had multiple previous
   UTI
s, and then with traumatic foley placement at OSH.  He was on just
   Ampicillin but was then broadened to Vanc/Cefepime/Cipro, day 2 due to
   spiking fevers and hypotension [**12-23**].  He is now off of pressors and
   improved, but we will continue for a 7-day course of antibiotics.
   Though if he continues to improve, may consider returning to just
   ampicillin after 48 hours of negative cultures.
   - Watch fever curve, consider broadening if continued spikes  -->
   Flagyl
   - Cx for spiking fevers
   - IVF for UOP < 30 cc/hr, SBP < 90
   #Atrial fibrillation/PVCs:  Patient s/p pacemaker for unclear
   underlying rhythm although [**Hospital3 33**] notes history of atrial
   fibrillation. He has been between sinus tachycardia with PVC
   intermittent conduction block, and his current rhythm is paced and
   tachycardic. He was on home Digoxin which we had not restarted due to a
   normal rate in the past, but is intermittently tachy to the low 100
   Digoxin level here was normal.
   - contact PCP after [**Holiday **] to discuss possible anticoagulation.
   - continue digoxin at home dose.
   - monitor on telemetry
   # Metabolic Alkalosis: His bicarb is slightly improved today.  After
   extubation, he should be able to adjust his own acid-base status.  Most
   likely he is chronically hypoventilating and slightly acidotic, causing
   him to raise his bicarb.
   Other less acute or stable issues:
   #Acute Renal Failure:  Creatinine now in normal range. On admission,
   was likely pre-renal in the setting of sepsis, may also have component
   of ATN and initially post-renal obstruction.  Foley catheter now
   successfully placed. Cr has been trending down nicely with IVF's.
   - Trend Cr and UOP with IVF to maintain UOP > 30 cc/hr if possible
   - Foley catheter now in place = do NOT take out, per Urology, as below
   #Traumatic Foley Placement:  Patient transferred after concern that
   foley may be placed in scrotum.  Initial CT concerning for
   intraabdominal placement, now most likely instead bladder
   diverticulum.  Urology did cystoscopy and placed Foley. Their recs are
   to keep Foley in place, do not remove without asking urology first,
   keep secure to thigh with 2 catheter secures, f/u with Urology when
   acute illness over.
   #Elevated Blood Sugars:  Blood sugars in the 500s on arrival to the
   MICU and started on insulin gtt. Gtt has now been stopped and his BS's
   have been in the 100's.
   - Keep eye on BS and either restart gtt if very elevated consistently
   or start SSI.
   #Coronary Artery Disease:  Details unclear.
   - continue aspirin 81mg daily (home med)
   #Hyperlipidemia:
   - continue lipitor 10mg daily (home med)
   FEN: no IVF today, replete electrolytes, speech and swallow consult
   after extubation, oral nystatin.
   Prophylaxis: Subcutaneous heparin, PO lansoprazole.
   Access: CVL, Arterial line, 20g PIV.
   Code:  DNR, okay to re-intubate. Per daughter, NO chest compressions,
   nothing to make him suffer.
   Communication: Patient, Wife [**Name (NI) 10077**] [**Telephone/Fax (1) 10078**], Son [**Name (NI) 5371**], Daughter
   [**Name (NI) 412**] is very involved
   Disposition: Possible call-out tomorrow if remains extubated
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP:  HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-12-26 10:13:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo man with severe COPD, admitted with urosepsis.  c/b VAP.
   extubated yesterday.
   Still requiring a fair amount of oxygen.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2129-12-25**] 03:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2129-12-26**] 01:02 AM
   Ciprofloxacin - [**2129-12-26**] 01:43 AM
   Vancomycin - [**2129-12-26**] 07:52 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-12-25**] 05:00 PM
   Other medications:
   ASA
   lipitor
   prevacid
   dig
   nebs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Rash
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2129-12-26**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96.1
   HR: 95 (92 - 107) bpm
   BP: 140/60(83) {94/43(59) - 160/88(113)} mmHg
   RR: 28 (18 - 37) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 58.1 kg (admission): 55 kg
   CVP: 8 (4 - 12)mmHg
   Total In:
                                                                  1,612 mL
                                                                    550 mL
   PO:
   TF:
                                                                     32 mL
   IVF:
                                                                  1,520 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                  1,255 mL
   Urine:
                                                                  1,900 mL
                                                                  1,255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -288 mL
                                                                   -705 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 584 (584 - 704) mL
   PS : 5 cmH2O
   RR (Spontaneous): 33
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 5 cmH2O
   SpO2: 97%
   ABG: 7.41/45/91.[**Numeric Identifier 253**]/28/2
   Ve: 5.8 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): place not date, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   228 K/uL
   88 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.0 mEq/L
   21 mg/dL
   105 mEq/L
   138 mEq/L
   26.3 %
   14.0 K/uL
        [image002.jpg]
                            [**2129-12-23**]  01:57 AM
                            [**2129-12-23**]  12:34 PM
                            [**2129-12-24**]  04:14 AM
                            [**2129-12-24**]  05:53 AM
                            [**2129-12-24**]  12:11 PM
                            [**2129-12-25**]  04:16 AM
                            [**2129-12-25**]  02:06 PM
                            [**2129-12-25**]  06:25 PM
                            [**2129-12-26**]  03:36 AM
                            [**2129-12-26**]  04:03 AM
   WBC
   12.6
   11.7
   14.0
   Hct
   28.4
   25.4
   26.3
   Plt
   189
   199
   228
   Cr
   0.6
   0.6
   0.5
   TCO2
   35
   30
   29
   29
   29
   29
   30
   Glucose
   120
   131
   88
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Respiratory failure:  Much improved.  Still requiring suctioning with
   weak cough so will keep him on floor.
   VAP:  Being treated empirically.  Can continue for 8 day course of
   vanco/cefepime.
   urosepsis: 14 days of amp
   acute renal failure:  resolved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes

2129-12-27 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2129-12-26**] 02:38 PM
 pending
   - stable but requires too much suctioning to go to floor
   - failed speech and swallow- needs Dobhoff
   - Hct stable.
   - no pain or SOB
   - neck sore
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-26**] 08:00 PM
   Cefipime - [**2129-12-27**] 12:19 AM
   Ciprofloxacin - [**2129-12-27**] 02:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2129-12-26**] 06:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-27**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.7
C (96.3
   HR: 97 (86 - 111) bpm
   BP: 136/61(85) {111/52(71) - 148/113(124)} mmHg
   RR: 27 (23 - 33) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 58.1 kg (admission): 55 kg
             Total In:
                                                                    920 mL
                                                                    284 mL
   PO:
             TF:
   IVF:
                                                                    920 mL
                                                                    284 mL
   Blood products:
   Total out:
                                                                  2,745 mL
                                                                    900 mL
   Urine:
                                                                  2,745 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,825 mL
                                                                   -616 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   Gen:  Alert and interactive. NAD. Difficult to hear his words as he
   mumbles and speaks very quietly.
   CV:  Very soft heart sounds, RRR, unable to appreciate any murmers.
   Heart most audible below the left ribcage (caudal).
   Pulm:  Rhonchi b/l with adequate air movement.
   Abd:  Soft, NT/ND, +BS
   Extr: 2+ DP
s bilaterally. No LE edema, 1+ b/l UE edema (relatively
   symmetric). Sacral edema 2+.
   Labs / Radiology
   305 K/uL
   8.9 g/dL
   113 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.9 mEq/L
   18 mg/dL
   100 mEq/L
   134 mEq/L
   27.3 %
   15.5 K/uL
        [image002.jpg]
                            [**2129-12-23**]  12:34 PM
                            [**2129-12-24**]  04:14 AM
                            [**2129-12-24**]  05:53 AM
                            [**2129-12-24**]  12:11 PM
                            [**2129-12-25**]  04:16 AM
                            [**2129-12-25**]  02:06 PM
                            [**2129-12-25**]  06:25 PM
                            [**2129-12-26**]  03:36 AM
                            [**2129-12-26**]  04:03 AM
                             [**2129-12-27**]  02:30 AM
   WBC
   12.6
   11.7
   14.0
   15.5
   Hct
   28.4
   25.4
   26.3
   27.3
   Plt
   189
   199
   228
   305
   Cr
   0.6
   0.6
   0.5
   0.5
   TCO2
   30
   29
   29
   29
   29
   30
   Glucose
   120
   131
   88
   113
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.0
   mg/dL
   No new micro data
   CXR: no change (my read); continued b/l infiltrates and pleural
   effusions and vascular fullness
   Assessment and Plan
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   An 84 year old gentleman admitted from [**Hospital3 33**] Hospital with
   respiratory failure, hematuria and elevated lactate, who developed a
   pressor requirement upon admission, had OSH Cx
s positive for GPC
s and
   was started on Ampicillin but spiked higher temps and now broadened to
   Vanc/Cefipime/Cipro, with enterococcus and strep viridans in urine.
   Extubated yesterday, tolerating well, secretions needing to be
   suctioned.
   #Respiratory Failure:  He has done well following extubation on a face
   tent with high flow oxygen, though still requiring suctioning of
   secretions.  Patient with severe emphysema on CT scan with respiratory
   failure in the setting of acidosis with tachypnea and possible
   developing left sided infiltrate.
   - CXR daily
   - check afternoon ABG as follow-up to metabolic alkalosis previously
   - titrate O2 to sat in low 90s.
   - discuss with daughter whether re-intubation is an option if he does
   poorly again after extubation
   - Continue Albuterol and ipratropium nebulizers.
   #Sepsis:  On presentation appears to have had urosepsis, w/ positive
   UCx though all blood has been negative.  Has had multiple previous
   UTI
s, and then with traumatic foley placement at OSH.  He was on just
   Ampicillin but was then broadened to Vanc/Cefepime/Cipro, day 2 due to
   spiking fevers and hypotension [**12-23**].  He is now off of pressors and
   improved, but we will continue for a 14-day course of antibiotics.
   Though if he continues to improve, may consider returning to just
   ampicillin after 48 hours of negative cultures.
   - Discontinue vancomycin and cefepime (had been started for spike and
   concern for VAP, but now afebrile and no growth on micro)
   - Continue ampicillin, today is day #[**8-9**] (for complicated UTI)
   - Currently afebrile.  Watch fever curve, consider cx and broadening
   abxif spikes  --> Flagyl; and/or restart vanc/cefepime
   - IVF for UOP < 30 cc/hr, SBP < 90
   #Altered mental status: Patient is improving and is now interactive and
   following commands.  His altered mental status is likely multifactorial
   due to infection and toxic/metabolic from medications.  He is being
   kept off of sedation.  CTA of head and neck did not reveal
   abnormalities.
   - improved, monitor clinically
   #Atrial fibrillation/PVCs:  Patient s/p pacemaker for unclear
   underlying rhythm although [**Hospital3 33**] notes history of atrial
   fibrillation. He has been between sinus tachycardia with PVC
   intermittent conduction block, and his current rhythm is paced and
   tachycardic. He was on home Digoxin which we had not restarted due to a
   normal rate in the past, but is intermittently tachy to the low 100
   Digoxin level here was normal.
   - contact PCP to discuss possible anticoagulation.
   - continue digoxin at home dose.
   - monitor on telemetry
   # Right Upper Extremity Edema:  Mild right upper extremity edema
   without pain
 will rule out possible thrombus. Less asymmetric today.
   - RUE US to r/o thrombus
 f/u final read
   # Neck soreness
 appears MSK due to position, extubation, etc.
 warm compress, plan to remove CVL after PICC placed, morphine liquid
   elixir (failed speech & swallow), change position
   # Metabolic Alkalosis: Bicarb slightly improved.  After extubation, he
   should be able to adjust his own acid-base status.  Most likely he is
   chronically hypoventilating and slightly acidotic, causing him to raise
   his bicarb.
   - check afternoon ABG
   Other less acute or stable issues:
   #Acute Renal Failure:  Creatinine now in normal range. On admission,
   was likely pre-renal in the setting of sepsis, may also have component
   of ATN and initially post-renal obstruction.  Foley catheter now
   successfully placed. Cr has been trending down nicely with IVF's and
   currently at baseline.
   - Trend Cr and UOP with IVF to maintain UOP > 30 cc/hr if possible
   - Foley catheter now in place = do NOT take out, per Urology, as below
   #Traumatic Foley Placement:  Patient transferred after concern that
   foley may be placed in scrotum.  Initial CT concerning for
   intraabdominal placement, now most likely instead bladder
   diverticulum.  Urology did cystoscopy and placed Foley. Their recs are
   to keep Foley in place, do not remove without asking urology first,
   keep secure to thigh with 2 catheter secures, f/u with Urology when
   acute illness over.
   #Elevated Blood Sugars:  Blood sugars in the 500s on arrival to the
   MICU and started on insulin gtt. Gtt has now been stopped and his BS's
   have been in the 100's.
   - Keep eye on BS and either restart gtt if very elevated consistently
   or start SSI.
   #Coronary Artery Disease:  Details unclear.
   - continue aspirin 81mg daily (home med)
   #Hyperlipidemia:
   - continue lipitor 10mg daily (home med)
   FEN: no IVF today, replete electrolytes, IR-guided Dobhoff to be placed
   today per speech & swallow, oral nystatin.
   Prophylaxis: Subcutaneous heparin, PO lansoprazole.
   Access: CVL, Arterial line, 20g PIV. Plan to place PICC (on R, d/t
   pacer on L), then afterwards pull CVL.
   Code:  DNR, okay to re-intubate. Per daughter, NO chest compressions,
   nothing to make him suffer.
   Communication: Patient, Wife [**Name (NI) 10077**] [**Telephone/Fax (1) 10078**], Son [**Name (NI) 5371**], Daughter
   [**Name (NI) 412**] is very involved
   Disposition: Possible call-out tomorrow, after PICC and Dobhoff have
   been placed. Start rehab screening.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:  PPI
   VAP: n/a
   Comments:
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-12-27 12:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo man with sepsis with UTI, respiratory failure.  Extubated and
   doing better.  No events  Failed S+S exam, needs dobhoff
   24 Hour Events:
 ULTRASOUND - At [**2129-12-26**] 02:38 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2129-12-27**] 12:19 AM
   Ciprofloxacin - [**2129-12-27**] 02:00 AM
   Vancomycin - [**2129-12-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2129-12-26**] 06:41 PM
   Other medications:
   asa
   dig
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Pain: [**1-28**] Minimal
   Pain location: c/o neck pain
   Flowsheet Data as of  [**2129-12-27**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 100 (86 - 111) bpm
   BP: 139/74(94) {111/52(71) - 156/113(124)} mmHg
   RR: 26 (19 - 32) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 58.1 kg (admission): 55 kg
             Total In:
                                                                    920 mL
                                                                    511 mL
   PO:
             TF:
   IVF:
                                                                    920 mL
                                                                    511 mL
   Blood products:
   Total out:
                                                                  2,745 mL
                                                                  1,430 mL
   Urine:
                                                                  2,745 mL
                                                                  1,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,825 mL
                                                                   -919 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   305 K/uL
   113 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.9 mEq/L
   18 mg/dL
   100 mEq/L
   134 mEq/L
   27.3 %
   15.5 K/uL
        [image002.jpg]
                            [**2129-12-23**]  12:34 PM
                            [**2129-12-24**]  04:14 AM
                            [**2129-12-24**]  05:53 AM
                            [**2129-12-24**]  12:11 PM
                            [**2129-12-25**]  04:16 AM
                            [**2129-12-25**]  02:06 PM
                            [**2129-12-25**]  06:25 PM
                            [**2129-12-26**]  03:36 AM
                            [**2129-12-26**]  04:03 AM
                             [**2129-12-27**]  02:30 AM
   WBC
   12.6
   11.7
   14.0
   15.5
   Hct
   28.4
   25.4
   26.3
   27.3
   Plt
   189
   199
   228
   305
   Cr
   0.6
   0.6
   0.5
   0.5
   TCO2
   30
   29
   29
   29
   29
   30
   Glucose
   120
   131
   88
   113
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Respiratory failure:  Still somewhat tachypneic, likely due to profound
   weakness and poor sputum clearance.
   can stop vanco/cefepime/cipro as cultures have been negative
   Septic shock/UTI:  complete 14 days of ampicillin
   MS:  slowly improving
   AFib:  candidate for anticoagulation.
   Acute renal failure: resolved
   Traumatic foley placent:  continue foley
   Will need dobhoff.
   will pull central line and need PIC line.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2129-12-28 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - PICC to be placed in AM, ?IR guided Dobhoff placement as well?.  Plan
   to pull central line once PICC in.
   - Code status confirmed DNR/DNI
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2129-12-27**] 12:19 AM
   Ciprofloxacin - [**2129-12-27**] 02:00 AM
   Vancomycin - [**2129-12-27**] 08:00 AM
   Ampicillin - [**2129-12-28**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-28**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.6
   HR: 72 (72 - 109) bpm
   BP: 134/58(81) {120/49(72) - 159/76(102)} mmHg
   RR: 31 (19 - 34) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 58.1 kg (admission): 55 kg
             Total In:
                                                                    957 mL
                                                                    628 mL
   PO:
             TF:
   IVF:
                                                                    957 mL
                                                                    628 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    525 mL
   Urine:
                                                                  2,350 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,393 mL
                                                                    103 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.44/46/66/26/5
   PaO2 / FiO2: 165
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   382 K/uL
   8.9 g/dL
   79 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.5 mEq/L
   15 mg/dL
   110 mEq/L
   141 mEq/L
   27.4 %
   16.7 K/uL
        [image002.jpg]
                            [**2129-12-25**]  02:06 PM
                            [**2129-12-25**]  06:25 PM
                            [**2129-12-26**]  03:36 AM
                            [**2129-12-26**]  04:03 AM
                             [**2129-12-27**]  02:30 AM
                             [**2129-12-27**]  12:56 PM
                             [**2129-12-27**]  03:55 PM
                             [**2129-12-27**]  05:15 PM
                             [**2129-12-28**]  02:40 AM
                             [**2129-12-28**]  03:04 AM
   WBC
   14.0
   15.5
   16.7
   Hct
   26.3
   27.3
   27.4
   Plt
   [**Telephone/Fax (3) 10294**]
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   29
   29
   30
   31
   31
   32
   Glucose
   88
   113
   93
   92
   79
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:6.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.6
   mg/dL
   No new micro.
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   An 84 year old gentleman admitted from [**Hospital3 33**] Hospital with
   respiratory failure, hematuria and elevated lactate, who developed a
   pressor requirement upon admission, had OSH Cx
s positive for GPC
s and
   was started on Ampicillin but spiked higher temps and now broadened to
   Vanc/Cefipime/Cipro, with enterococcus and strep viridans in urine.
   Extubated yesterday, tolerating well, secretions needing to be
   suctioned.
   #Respiratory Failure:  He has done well following extubation on a face
   tent with high flow oxygen, though still requiring suctioning of
   secretions.  Patient with severe emphysema on CT scan with respiratory
   failure in the setting of acidosis with tachypnea and possible
   developing left sided infiltrate.
   - CXR daily
   - check afternoon ABG as follow-up to metabolic alkalosis previously
   - titrate O2 to sat in low 90s.
   - discuss with daughter whether re-intubation is an option if he does
   poorly again after extubation
   - Continue Albuterol and ipratropium nebulizers.
   #Sepsis:  On presentation appears to have had urosepsis, w/ positive
   UCx though all blood has been negative.  Has had multiple previous
   UTI
s, and then with traumatic foley placement at OSH.  He was on just
   Ampicillin but was then broadened to Vanc/Cefepime/Cipro, day 2 due to
   spiking fevers and hypotension [**12-23**].  He is now off of pressors and
   improved, but we will continue for a 14-day course of antibiotics.
   Though if he continues to improve, may consider returning to just
   ampicillin after 48 hours of negative cultures.
   - Discontinue vancomycin and cefepime (had been started for spike and
   concern for VAP, but now afebrile and no growth on micro)
   - Continue ampicillin, today is day #[**8-9**] (for complicated UTI)
   - Currently afebrile.  Watch fever curve, consider cx and broadening
   abxif spikes  --> Flagyl; and/or restart vanc/cefepime
   - IVF for UOP < 30 cc/hr, SBP < 90
   #Altered mental status: Patient is improving and is now interactive and
   following commands.  His altered mental status is likely multifactorial
   due to infection and toxic/metabolic from medications.  He is being
   kept off of sedation.  CTA of head and neck did not reveal
   abnormalities.
   - improved, monitor clinically
   #Atrial fibrillation/PVCs:  Patient s/p pacemaker for unclear
   underlying rhythm although [**Hospital3 33**] notes history of atrial
   fibrillation. He has been between sinus tachycardia with PVC
   intermittent conduction block, and his current rhythm is paced and
   tachycardic. He was on home Digoxin which we had not restarted due to a
   normal rate in the past, but is intermittently tachy to the low 100
   Digoxin level here was normal.
   - contact PCP to discuss possible anticoagulation.
   - digoxin converted from home PO to IV
   - monitor on telemetry
   # Right Upper Extremity Edema:  Mild right upper extremity edema
   without pain
 will rule out possible thrombus. Less asymmetric today.
   - RUE US to r/o thrombus
 f/u final read
   # Neck soreness
 appears MSK due to position, extubation, etc.
 warm compress, plan to remove CVL after PICC placed, morphine liquid
   elixir (failed speech & swallow), change position
   # Metabolic Alkalosis: Bicarb slightly improved.  After extubation, he
   should be able to adjust his own acid-base status.  Most likely he is
   chronically hypoventilating and slightly acidotic, causing him to raise
   his bicarb.
   - check afternoon ABG
   Other less acute or stable issues:
   #Acute Renal Failure:  Creatinine now in normal range. On admission,
   was likely pre-renal in the setting of sepsis, may also have component
   of ATN and initially post-renal obstruction.  Foley catheter now
   successfully placed. Cr has been trending down nicely with IVF's and
   currently at baseline.
   - Trend Cr and UOP with IVF to maintain UOP > 30 cc/hr if possible
   - Foley catheter now in place = do NOT take out, per Urology, as below
   #Traumatic Foley Placement:  Patient transferred after concern that
   foley may be placed in scrotum.  Initial CT concerning for
   intraabdominal placement, now most likely instead bladder
   diverticulum.  Urology did cystoscopy and placed Foley. Their recs are
   to keep Foley in place, do not remove without asking urology first,
   keep secure to thigh with 2 catheter secures, f/u with Urology when
   acute illness over.
   #Elevated Blood Sugars:  Blood sugars in the 500s on arrival to the
   MICU and started on insulin gtt. Gtt has now been stopped and his BS's
   have been in the 100's.
   - Keep eye on BS and either restart gtt if very elevated consistently
   or start SSI.
   #Coronary Artery Disease:  Details unclear.
   - continue aspirin 81mg daily (home med)
   #Hyperlipidemia:
   - continue lipitor 10mg daily (home med)
   FEN: no IVF today, replete electrolytes, IR-guided Dobhoff to be placed
   today per speech & swallow, oral nystatin.
   Prophylaxis: Subcutaneous heparin, PO lansoprazole.
   Access: CVL, Arterial line, 20g PIV. Plan to place PICC (on R, d/t
   pacer on L), then afterwards pull CVL.
   Code:  DNR, DNI. Per daughter, NO chest compressions, nothing to make
   him suffer.
   Communication: Patient, Wife [**Name (NI) 10077**] [**Telephone/Fax (1) 10078**], Son [**Name (NI) 5371**], Daughter
   [**Name (NI) 412**] is very involved
   Disposition: Possible call-out today, after PICC and Dobhoff have been
   placed. Start rehab screening.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   18 Gauge - [**2129-12-27**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-12-28 11:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo man with severe COPD, respiratory failure.  Patient requiring
   frequent suctioning overnight.
   This morning desaturating.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2129-12-27**] 12:19 AM
   Ciprofloxacin - [**2129-12-27**] 02:00 AM
   Vancomycin - [**2129-12-27**] 08:00 AM
   Ampicillin - [**2129-12-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-12-28**] 09:45 AM
   Other medications:
   hep s/q
   atrovent/albuterol
   famotidine
   dig
   morphine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-28**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 94 (70 - 109) bpm
   BP: 119/50(70) {109/49(69) - 159/76(98)} mmHg
   RR: 28 (22 - 34) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 58.1 kg (admission): 55 kg
             Total In:
                                                                    957 mL
                                                                  1,030 mL
   PO:
             TF:
   IVF:
                                                                    957 mL
                                                                  1,030 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    885 mL
   Urine:
                                                                  2,350 mL
                                                                    885 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,393 mL
                                                                    145 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.44/46/66/26/5
   PaO2 / FiO2: 165
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   382 K/uL
   79 mg/dL
   0.4 mg/dL
   26 mEq/L
   3.5 mEq/L
   15 mg/dL
   110 mEq/L
   141 mEq/L
   27.4 %
   16.7 K/uL
        [image002.jpg]
                            [**2129-12-25**]  02:06 PM
                            [**2129-12-25**]  06:25 PM
                            [**2129-12-26**]  03:36 AM
                            [**2129-12-26**]  04:03 AM
                             [**2129-12-27**]  02:30 AM
                             [**2129-12-27**]  12:56 PM
                             [**2129-12-27**]  03:55 PM
                             [**2129-12-27**]  05:15 PM
                             [**2129-12-28**]  02:40 AM
                             [**2129-12-28**]  03:04 AM
   WBC
   14.0
   15.5
   16.7
   Hct
   26.3
   27.3
   27.4
   Plt
   [**Telephone/Fax (3) 10294**]
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   29
   29
   30
   31
   31
   32
   Glucose
   88
   113
   93
   92
   79
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:6.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Respiratory distress:  having poor secretion clearance.  Requiring
   frequent suctioning.    Confirmed DNR/DNI with son.
   [**Name (NI) **] try and play dobhoff at bedside.
   AFib:  dig now IV due to lack of swallowing.
   U/S without UE clot.
   metabolic alkalosis:  likely from prior lasix.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   18 Gauge - [**2129-12-27**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Had meeting with patient
s son, [**Name (NI) 5371**].  Discussed above status.  He is
   currently doing slightly worse with secretion clearance.  As such
   currently he would not be transferred to rehab.  Confirmed also that he
   will be DNR/DNI.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2129-12-28**] 14:24 ------

2129-12-29 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2129-12-28**] 03:00 PM
 PICC LINE - STOP [**2129-12-28**] 05:30 PM
   [**12-28**]
   Dobhoff placed (might be slightly short, so double-check CXR in AM for
   placement); tube feeds running slowly
   PICC team tried to place PICC at bedside, unable; so ordered in POE for
   IR to place PICC on [**12-29**] - but we need to call to schedule/confirm
   Gave lasix for lower O2 sats; improved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2129-12-27**] 12:19 AM
   Ciprofloxacin - [**2129-12-27**] 02:00 AM
   Vancomycin - [**2129-12-27**] 08:00 AM
   Ampicillin - [**2129-12-29**] 04:14 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2129-12-28**] 05:02 PM
   Morphine Sulfate - [**2129-12-28**] 08:45 PM
   Famotidine (Pepcid) - [**2129-12-29**] 12:27 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-29**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-29**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96
   HR: 60 (59 - 106) bpm
   BP: 102/40(58) {102/40(58) - 143/65(90)} mmHg
   RR: 21 (20 - 34) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 58.1 kg (admission): 55 kg
             Total In:
                                                                  1,678 mL
                                                                    351 mL
   PO:
             TF:
                                                                     58 mL
                                                                     70 mL
   IVF:
                                                                  1,540 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  2,140 mL
                                                                    292 mL
   Urine:
                                                                  2,140 mL
                                                                    292 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -463 mL
                                                                     59 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   407 K/uL
   8.6 g/dL
   96 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.3 mEq/L
   18 mg/dL
   102 mEq/L
   138 mEq/L
   26.0 %
   16.3 K/uL
        [image002.jpg]
                            [**2129-12-25**]  06:25 PM
                            [**2129-12-26**]  03:36 AM
                            [**2129-12-26**]  04:03 AM
                             [**2129-12-27**]  02:30 AM
                             [**2129-12-27**]  12:56 PM
                             [**2129-12-27**]  03:55 PM
                             [**2129-12-27**]  05:15 PM
                             [**2129-12-28**]  02:40 AM
                             [**2129-12-28**]  03:04 AM
                             [**2129-12-29**]  04:07 AM
   WBC
   14.0
   15.5
   16.7
   16.3
   Hct
   26.3
   27.3
   27.4
   26.0
   Plt
   [**Telephone/Fax (3) 10306**]07
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   0.6
   TCO2
   29
   30
   31
   31
   32
   Glucose
   88
   113
   93
   92
   79
   96
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.9
   mg/dL
   Imaging: [**12-29**] - CXR:  my read - improved hazy infiltrate of the left
   lower base
   Microbiology: [**12-23**] bcx ntd
   [**12-23**] ucx neg, sputum cx contaminated
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   An 84 year old gentleman admitted from [**Hospital3 33**] Hospital with
   respiratory failure, hematuria and elevated lactate, who developed a
   pressor requirement upon admission, had OSH Cx
s positive for GPC
s and
   was started on Ampicillin but spiked higher temps and now broadened to
   Vanc/Cefipime/Cipro, with enterococcus and strep viridans in urine.
   Extubated yesterday, tolerating well, secretions needing to be
   suctioned.
   #Respiratory Failure:  He has done well following extubation on a face
   tent with high flow oxygen, though still requiring suctioning of
   secretions.  Patient with severe emphysema on CT scan with respiratory
   failure in the setting of acidosis with tachypnea and possible
   developing left sided infiltrate.
   - CXR daily
   - titrate O2 to PO2 in low 90s.
   - Continue Albuterol and ipratropium nebulizers.
   #Sepsis:  On presentation appears to have had urosepsis, w/ positive
   UCx though all blood has been negative.  Has had multiple previous
   UTI
s, and then with traumatic foley placement at OSH.  He was on just
   Ampicillin but was then broadened to Vanc/Cefepime/Cipro, day 2 due to
   spiking fevers and hypotension [**12-23**].  He is now off of pressors and
   improved, but we will continue for a 14-day course of antibiotics.
   Though if he continues to improve, may consider returning to just
   ampicillin after 48 hours of negative cultures.   Discontinued
   vancomycin and cefepime (had been started for spike and concern for
   VAP, but now afebrile and no growth on micro).  Currently on Ampicillin
   - Continue Ampicillin, today is day #[**1-9**] (initiated [**12-18**] for
   complicated UTI)
   - Currently afebrile.  Watch fever curve, consider cx and broadening
   abxif spikes  --> restart vanc/cefepime, and/or add flagyl
   - IVF for UOP < 30 cc/hr, SBP < 90
   #Altered mental status: Patient is improving and is now interactive and
   following commands.  His altered mental status is likely multifactorial
   due to infection and toxic/metabolic from medications.  He is being
   kept off of sedation.  CTA of head and neck did not reveal
   abnormalities.
   - improved, monitor clinically
   #Atrial fibrillation/PVCs:  Patient s/p pacemaker for unclear
   underlying rhythm although [**Hospital3 33**] notes history of atrial
   fibrillation. He has been between sinus tachycardia with PVC
   intermittent conduction block, and his current rhythm is paced and
   tachycardic. He was on home Digoxin which we had not restarted due to a
   normal rate in the past, but is intermittently tachy to the low 100
   Digoxin level here was normal.
   - contact PCP to discuss possible anticoagulation
   - Digoxin converted from home PO to IV regimen.
   - monitor on telemetry
   # Right Upper Extremity Edema:  Mild right upper extremity edema
   without pain
 will rule out possible thrombus
 ultrasound negative
   for clot. Edema less asymmetric today
 resolving.
   - monitor clinically
   # Neck soreness
 appears MSK due to position, extubation, etc.
 warm compress, plan to remove CVL after PICC placed, morphine liquid
   elixir drops on tongue (failed speech & swallow), change position
   Other less acute or stable issues:
   #Acute Renal Failure:  Creatinine now in normal range. On admission,
   was likely pre-renal in the setting of sepsis, may also have component
   of ATN and initially post-renal obstruction.  Foley catheter now
   successfully placed. Cr has been trending down nicely with IVF's and
   currently at baseline.
   - Trend Cr and UOP with IVF to maintain UOP > 30 cc/hr if possible
   - Foley catheter now in place = do NOT take out, per Urology, as below
   # Metabolic Alkalosis: Bicarb slightly improved.  After extubation, he
   should be able to adjust his own acid-base status.  Most likely he is
   chronically hypoventilating and slightly acidotic, causing him to raise
   his bicarb.  Currently not in metabolic alkalosis
   - follow ABG
s as related to respiratory status
   #Traumatic Foley Placement:  Patient transferred after concern that
   foley may be placed in scrotum.  Initial CT concerning for
   intraabdominal placement, now most likely instead bladder
   diverticulum.  Urology did cystoscopy and placed Foley. Their recs are
   to keep Foley in place, do not remove without asking urology first,
   keep secure to thigh with 2 catheter secures, f/u with Urology when
   acute illness over.
   #Elevated Blood Sugars:  Blood sugars in the 500s on arrival to the
   MICU and started on insulin gtt. Gtt has now been stopped and his BS's
   have been appropriately in the 100's. Issue resolved.
   #Coronary Artery Disease:  Details unclear.
   - continue aspirin 81mg daily (home med)
   #Hyperlipidemia:
   - continue lipitor 10mg daily (home med)
   FEN: no IVF today, replete electrolytes, tubefeeds per Dobhoff per
   speech & swallow, oral nystatin.
   Prophylaxis: Subcutaneous heparin, PO lansoprazole.
   Access: CVL, Arterial line, 20g PIV. Plan to place PICC today (on R,
   d/t pacer on L), then afterwards pull CVL.
   Code:  DNR, DNI. Per daughter, NO chest compressions, nothing to make
   him suffer. DNR, DNI.
   Communication: Patient, Wife [**Name (NI) 10077**] [**Telephone/Fax (1) 10078**], Son [**Name (NI) 5371**], Daughter
   [**Name (NI) 412**] is very involved
   Disposition: Possible call-out today, after PICC and Dobhoff have been
   placed. Start rehab screening.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-12-28**] 06:15 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   18 Gauge - [**2129-12-27**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition:

2129-12-29 13:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo man with severe COPD, respiratory faiulre, septic shock from
   UTI.  Persistent weakness, poor cough.
   24 Hour Events:
 PICC LINE - START [**2129-12-28**] 03:00 PM
 PICC LINE - STOP [**2129-12-28**] 05:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2129-12-27**] 12:19 AM
   Ciprofloxacin - [**2129-12-27**] 02:00 AM
   Vancomycin - [**2129-12-27**] 08:00 AM
   Ampicillin - [**2129-12-29**] 04:14 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2129-12-28**] 05:02 PM
   Morphine Sulfate - [**2129-12-28**] 08:45 PM
   Famotidine (Pepcid) - [**2129-12-29**] 12:27 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-29**] 12:27 AM
   Other medications:
   hep s/q
   asa
   lipitor
   senna
   atrovent
   ampicillin
   pepicd
   digoxin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2129-12-29**] 01:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 60 (59 - 73) bpm
   BP: 120/45(66) {102/40(58) - 143/65(90)} mmHg
   RR: 21 (20 - 34) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Wgt (current): 58.1 kg (admission): 55 kg
             Total In:
                                                                  1,678 mL
                                                                    431 mL
   PO:
             TF:
                                                                     58 mL
                                                                    101 mL
   IVF:
                                                                  1,540 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  2,140 mL
                                                                    392 mL
   Urine:
                                                                  2,140 mL
                                                                    392 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -463 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   407 K/uL
   96 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.3 mEq/L
   18 mg/dL
   102 mEq/L
   138 mEq/L
   26.0 %
   16.3 K/uL
        [image002.jpg]
                            [**2129-12-25**]  06:25 PM
                            [**2129-12-26**]  03:36 AM
                            [**2129-12-26**]  04:03 AM
                             [**2129-12-27**]  02:30 AM
                             [**2129-12-27**]  12:56 PM
                             [**2129-12-27**]  03:55 PM
                             [**2129-12-27**]  05:15 PM
                             [**2129-12-28**]  02:40 AM
                             [**2129-12-28**]  03:04 AM
                             [**2129-12-29**]  04:07 AM
   WBC
   14.0
   15.5
   16.7
   16.3
   Hct
   26.3
   27.3
   27.4
   26.0
   Plt
   [**Telephone/Fax (3) 10306**]07
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   0.6
   TCO2
   29
   30
   31
   31
   32
   Glucose
   88
   113
   93
   92
   79
   96
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Respiratory failure:  improved with lasix. Will try to diurese negative
   0.5-1L.
   sepsis:  ampicillin day [**1-9**].
   MS:  Much improved.
   AFib:  on dig.
   neck pain:  tylenol.  PT
   will see if rehab will accept him today.
   ICU Care
   Nutrition:
   Comments: titrate up TFs.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-12-19**] 12:00 AM
   Arterial Line - [**2129-12-19**] 12:00 AM
   18 Gauge - [**2129-12-27**] 06:00 PM
   Comments: remove IJ
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2129-12-30 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2129-12-29**] 12:45 PM
 MULTI LUMEN - STOP [**2129-12-29**] 06:33 PM
   Failed speech and swallow again
 continues NPO.
   Plan for rehab this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-27**] 08:00 AM
   Ampicillin - [**2129-12-30**] 06:19 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2129-12-29**] 02:45 PM
   Heparin Sodium (Prophylaxis) - [**2129-12-29**] 05:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-30**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 68 (57 - 79) bpm
   BP: 107/40(59) {100/33(51) - 163/68(94)} mmHg
   RR: 27 (18 - 34) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 58.1 kg (admission): 55 kg
             Total In:
                                                                  1,074 mL
                                                                    660 mL
   PO:
             TF:
                                                                    333 mL
                                                                    210 mL
   IVF:
                                                                    591 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  1,602 mL
                                                                    360 mL
   Urine:
                                                                  1,602 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -528 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: 7.42/48/71/32/5
   PaO2 / FiO2: 101
   Physical Examination
   GEN: NAD, no sob or pain. Cachectic. Asking appropriate questions about
   rehab.
   CV: RRR, no m/r/g, best auscultated below left ribs.
   PULM: CTAB
   ABD: Soft, nt, nd, +bs
   EXTR: 1+ b/l pedal and upper extremity edema.
   Labs / Radiology
   420 K/uL
   8.7 g/dL
   109 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.5 mEq/L
   22 mg/dL
   101 mEq/L
   138 mEq/L
   26.0 %
   20.7 K/uL
        [image002.jpg]
                             [**2129-12-27**]  02:30 AM
                             [**2129-12-27**]  12:56 PM
                             [**2129-12-27**]  03:55 PM
                             [**2129-12-27**]  05:15 PM
                             [**2129-12-28**]  02:40 AM
                             [**2129-12-28**]  03:04 AM
                             [**2129-12-29**]  04:07 AM
                             [**2129-12-29**]  03:54 PM
                             [**2129-12-29**]  05:12 PM
                             [**2129-12-30**]  04:43 AM
   WBC
   15.5
   16.7
   16.3
   20.7
   Hct
   27.3
   27.4
   26.0
   26.0
   Plt
   [**Telephone/Fax (3) 10317**]20
   Cr
   0.5
   0.5
   0.5
   0.4
   0.6
   0.6
   0.6
   TCO2
   31
   31
   32
   32
   Glucose
   113
   93
   92
   79
   96
   97
   109
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   An 84 year old gentleman admitted from [**Hospital3 33**] Hospital with
   respiratory failure, hematuria and elevated lactate, who developed a
   pressor requirement upon admission, had OSH Cx
s positive for GPC
s and
   was started on Ampicillin but spiked higher temps and now broadened to
   Vanc/Cefipime/Cipro, with enterococcus and strep viridans in urine. On
   pressors previously, now weaned off.  Now extubated, tolerating well.
   #Respiratory Failure:  He has done well following extubation on a face
   tent with high flow oxygen, though still requiring suctioning of
   secretions.  Patient with severe emphysema on CT scan with respiratory
   failure in the setting of acidosis with tachypnea and possible
   developing left sided infiltrate.  CXR looks improved but with some
   pulmonary edema.
   - Weaning O2 down; now on humidified mask at 6L.  Continue titrating
   down O2 as tolerated to PO2 in low 90s.
   - Lasix prn for SOB, not giving any today
   - Continue Albuterol and ipratropium nebulizers.
   #Sepsis:  On presentation appears to have had urosepsis, w/ positive
   UCx though all blood has been negative.  Has had multiple previous
   UTI
s, and then with traumatic foley placement at OSH.  He was on just
   Ampicillin but was then broadened to Vanc/Cefepime/Cipro, day 2 due to
   spiking fevers and hypotension [**12-23**].  He is now off of pressors and
   improved, but we will continue for a 14-day course of antibiotics.
   Though if he continues to improve, may consider returning to just
   ampicillin after 48 hours of negative cultures.   Discontinued
   vancomycin and cefepime (had been started for spike and concern for
   VAP, but now afebrile and no growth on micro).  Currently on
   Ampicillin.
   - Continue Ampicillin, today is day #13/14 (initiated [**12-18**] for
   complicated UTI)
   - Currently afebrile.  Watch fever curve, consider cx and broadening
   abxif spikes  --> restart vanc/cefepime, and/or add flagyl
   #Atrial fibrillation/PVCs:  Patient s/p pacemaker for unclear
   underlying rhythm although [**Hospital3 33**] notes history of atrial
   fibrillation. He has been between sinus tachycardia with PVC
   intermittent conduction block, and his current rhythm is paced and
   tachycardic. He was on home Digoxin which we had not restarted due to a
   normal rate in the past, but is intermittently tachy to the low 100
   Digoxin level here was normal.
   - Digoxin (PO home med)
   - ASA 325mg as anticoagulation, as not on coumadin given fall risk
   - monitor on telemetry
   # Neck soreness
 appears MSK due to position, extubation, etc.
 warm compress, morphine liquid elixir drops on tongue (failed speech
   & swallow), change position
   - Tylenol standing
   # Leukocytosis
 unclear etiology, consider c.diff given multiple
   antibiotics recently
   - check c.diff if stools before discharge, but not currently having
   diarrhea
   - if develops diarrhea at rehab, consider c.diff testing and treatment
   Other less acute or stable issues:
   #Altered mental status: Patient is improving and is now interactive and
   following commands.  His altered mental status is likely multifactorial
   due to infection and toxic/metabolic from medications.  He is being
   kept off of sedation.  CTA of head and neck did not reveal
   abnormalities.
   - improved, monitor clinically
   # Right Upper Extremity Edema:  Ultrasound negative for clot. Resolved.
   #Acute Renal Failure:  Creatinine now in normal range. On admission,
   was likely pre-renal in the setting of sepsis, may also have component
   of ATN and initially post-renal obstruction.  Foley catheter now
   successfully placed. Cr has been trending down nicely with IVF's and
   currently at baseline.
   - Trend Cr and UOP with IVF to maintain UOP > 30 cc/hr if possible
   - Foley catheter now in place = do NOT take out, per Urology, as below
   - Write in d/c summary importance of contacting urology and NOT taking
   out foley
   # Metabolic Alkalosis: Resolved. Bicarb slightly improved.  After
   extubation, he should be able to adjust his own acid-base status.  Most
   likely he is chronically hypoventilating and slightly acidotic, causing
   him to raise his bicarb.  Follow ABG
s if dictated by respiratory
   status.
   #Traumatic Foley Placement:  Patient transferred after concern that
   foley may be placed in scrotum.  Initial CT concerning for
   intraabdominal placement, now most likely instead bladder
   diverticulum.  Urology did cystoscopy and placed Foley. Their recs are
   to keep Foley in place, do not remove without asking urology first,
   keep secure to thigh with 2 catheter secures, f/u with Urology when
   acute illness over.
   #Elevated Blood Sugars:  Resolved. Blood sugars in the 500s on arrival
   to the MICU and started on insulin gtt. Gtt has now been stopped and
   his BS's have been appropriately in the 100's.
   #Coronary Artery Disease:  Details unclear.
   - change aspirin 81mg daily (home med) to 325mg daily given afib
   #Hyperlipidemia:
   - continue lipitor 10mg daily (home med)
   FEN: no IVF today, replete electrolytes prn, tubefeeds by Dobhoff
   Nutren pulmonary, oral nystatin. NPO. Bowel regimen.
   Prophylaxis: Subcutaneous heparin, PO lansoprazole.
   Access: PICC line. Pull peripheral IV and arterial line today before
   discharge.
   Code:  DNR, DNI. Per daughter, NO chest compressions, nothing to make
   him suffer. DNR, DNI.
   Communication: Patient, Wife [**Name (NI) 10077**] [**Telephone/Fax (1) 10078**], Son [**Name (NI) 5371**], Daughter
   [**Name (NI) 412**] is very involved
   Disposition: Rehab today.
   ICU Care
   Lines:
   Arterial Line - [**2129-12-19**] 12:00 AM
   PICC Line - [**2129-12-29**] 12:45 PM

2129-12-30 10:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo man with severe COPD, respiratory failure.  severe weakness, poor
   sputum clearance.
   24 Hour Events:
 PICC LINE - START [**2129-12-29**] 12:45 PM
 MULTI LUMEN - STOP [**2129-12-29**] 06:33 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2129-12-30**] 06:19 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2129-12-29**] 02:45 PM
   Heparin Sodium (Prophylaxis) - [**2129-12-30**] 08:08 AM
   Other medications:
   lipitor
   digoxin
   morphine prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-30**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96.1
   HR: 66 (57 - 79) bpm
   BP: 130/54(77) {100/33(51) - 163/68(94)} mmHg
   RR: 28 (18 - 34) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 58.1 kg (admission): 55 kg
             Total In:
                                                                  1,074 mL
                                                                    897 mL
   PO:
             TF:
                                                                    333 mL
                                                                    363 mL
   IVF:
                                                                    591 mL
                                                                    294 mL
   Blood products:
   Total out:
                                                                  1,602 mL
                                                                    520 mL
   Urine:
                                                                  1,602 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -528 mL
                                                                    377 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 91%
   ABG: 7.42/48/71/32/5
   PaO2 / FiO2: 101
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   420 K/uL
   109 mg/dL
   0.6 mg/dL
   32 mEq/L
   4.5 mEq/L
   22 mg/dL
   101 mEq/L
   138 mEq/L
   26.0 %
   20.7 K/uL
        [image002.jpg]
                             [**2129-12-27**]  02:30 AM
                             [**2129-12-27**]  12:56 PM
                             [**2129-12-27**]  03:55 PM
                             [**2129-12-27**]  05:15 PM
                             [**2129-12-28**]  02:40 AM
                             [**2129-12-28**]  03:04 AM
                             [**2129-12-29**]  04:07 AM
                             [**2129-12-29**]  03:54 PM
                             [**2129-12-29**]  05:12 PM
                             [**2129-12-30**]  04:43 AM
   WBC
   15.5
   16.7
   16.3
   20.7
   Hct
   27.3
   27.4
   26.0
   26.0
   Plt
   [**Telephone/Fax (3) 10317**]20
   Cr
   0.5
   0.5
   0.5
   0.4
   0.6
   0.6
   0.6
   TCO2
   31
   31
   32
   32
   Glucose
   113
   93
   92
   79
   96
   97
   109
   Other labs: PT / PTT / INR:13.9/34.6/1.2, CK / CKMB /
   Troponin-T:92//0.02, ALT / AST:22/24, Alk Phos / T Bili:124/0.7,
   Amylase / Lipase:44/20, Fibrinogen:341 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:224 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DIARRHEA
 CARDIAC DYSRHYTHMIA OTHER
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 URINARY TRACT INFECTION (UTI)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Respiratory failure:  stable, breathing comfortably
   UTI:  ampicillin
   foley trauma:  will need urology follow-up.
   Afib stable.
   TFs.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-12-19**] 12:00 AM
   PICC Line - [**2129-12-29**] 12:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes